2120-09-14 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2120-9-13**] 10:49 PM
 PRESEP CATHETER - START [**2120-9-13**] 11:09 PM
 ARTERIAL LINE - START [**2120-9-13**] 11:29 PM
 FEVER - 101.6
F - [**2120-9-13**] 10:37 PM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-14**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-14**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-14**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (101
   HR: 105 (67 - 113) bpm
   BP: 148/55(78) {103/45(60) - 186/67(96)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.2 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 20 (13 - 21)mmHg
   Total In:
                                                                     16 mL
                                                                  4,144 mL
   PO:
   TF:
   IVF:
                                                                     16 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                     52 mL
                                                                     75 mL
   Urine:
                                                                     52 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                  4,069 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 44.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/33/158/17/-8
   Ve: 8.6 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GEN: intubated, sedated. opens eyes to voice. does not follow commands.
   HEENT: pupils small but reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, 2/6 systolic murmur at LUSB
   PULM: coarse breath sounds at right base, no wheeze
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis, + [**Doctor Last Name **] on exam, abd otherwise nontender
   EXT: dp pulses 1+ bilaterally, no edema
   Labs / Radiology
   378 K/uL
   8.7 g/dL
   223 mg/dL
   2.9 mg/dL
   17 mEq/L
   5.2 mEq/L
   59 mg/dL
   107 mEq/L
   135 mEq/L
   28.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2120-9-13**]  09:58 PM
                             [**2120-9-13**]  10:35 PM
                             [**2120-9-14**]  12:49 AM
                             [**2120-9-14**]  01:03 AM
                             [**2120-9-14**]  06:08 AM
                             [**2120-9-14**]  06:24 AM
   WBC
   4.3
   Hct
   24.4
   28.6
   Plt
   378
   Cr
   2.9
   TCO2
   18
   20
   17
   Glucose
   220
   229
   223
   Other labs: Alk Phos / T Bili:/0.9, Differential-Neuts:84.4 %,
   Lymph:11.3 %, Mono:2.6 %, Eos:1.4 %, Lactic Acid:1.0 mmol/L, LDH:142
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Septic shock:  Likely due to biliary source; last admission culture
   only grew LACTOBACILLUS. Urine negative. CXR unrevealing. Ultrasound
   cannot rule out gallbladder perforation and cholecystitis evident on
   scan. Concern for abscess formation / closed space infection. Surgery
   initially recommending CT scan, but after further review of ultrasound,
   plan for urgent percutaneous drainage by IR. IR contact[**Name (NI) **] and plan
   procedure today, preferably at bedside given patient instability.
   - [**Last Name (un) 402**] stim pending
   - arterial line in place, goal MAP > 65
   - Broad spectrum abx: Zosyn/vanc, ID consult for antibiotic choice
   - IVF bolus until CVP = [**8-6**], 500 cc bolus X 1 this AM
   - SBP to 80s with temp spike late this morning
 start levophed
   - SVO2 60, plan to transfuse 1 U PRBC as CVP replete
   - appreciate surgery recs, will continue to follow along
   - follow cultures
   - repeat lactate 2.1 (up from 1.8), continue to trend
   - monitor urine output closely-low this AM
   .
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  CXR w/o acute process in ED. At risk for ARDS given sepsis. ET
   tube in position though 5 cm above carina.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation changed to versed/Fentanyl this AM due to discomfort on
   propofol
   .
   # Acute renal failure: Cr trending up to > 3 with low urine output.
   Baseline appears to be low 2s.
   - continue to trend
   - avoid nephrotoxins and renally dose meds as appropriate
   .
   # anemia: hct low 30s on recent admissions and trending down overnight
   but back up to 28 this AM. Continue to trend.
   - iv ppi
   - guaiac stools
   - active t&s
   .
   # DM: SSI, blood sugar 58 this AM, will decrease aggressiveness of
   sliding scale
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, BB, amlodipine, lasix, prazosin in setting
   of septic shock
   .
   #Access: R IJ CVL placed in ED, PIV, arterial line
   .
   # FEn: NPo for now, has OG tube, replete lytes prn
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Presep Catheter - [**2120-9-13**] 11:09 PM
   20 Gauge - [**2120-9-13**] 11:11 PM
   Arterial Line - [**2120-9-13**] 11:29 PM
   Prophylaxis:
   DVT: hep sc tid
   Stress ulcer: ppi
   VAP:  head of bed elevated
   Comments:
   Communication:  Comments: with patient
s wife & son
   [**Name (NI) 36**] status: Full code
   Disposition: ICU care
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 1877**]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   CAD, recent NSTEMI
   presented with fever 103
   cholangitis - recent stent and perc chole placement, needs CCY
   U/S concerning for cholecystitis versus perforation
   intubated, lined for acute agitation
   Exam notable for Tm 103.7 BP 100/40   HR 101 RR with sat on
   AC16/550/5/.4
   intubated, sedated
   lungs clear
   abd - benign
   CXR reviewed - ett and line ok, unremarkable
   7.31/33/158
   Labs notable for WBC K, HCT 28 , K+ 4.8, HCO3 18 Cr 3 , lactate.
   AG 18
   Problems:
   cholecystitis
   resp failure
   agitation
   renal failure
   DM
   Agree with plan to abd ct per surgery, likely perc drainage of gb,
   antibiotics, cont vent support, make ERCP aware, IVF for poor urine
   output and rising creatinine, follow glucose
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2120-9-14**] 13:46 ------

2120-09-15 05:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Vasopressin started
          PRBC for low CV O2 sat
          [**2120-9-14**] 02:15 PM Bedside percutaneous cholecystostomy by
   IR: > 80 cc pyrulent fluid drained
          Started stress dose steroids
          Hyperkalemia to 6.6 following transfusion.  Got
   Ca/Insulin/D50.
          [**2120-9-14**] 09:25 PM Catheter placed for CVVH
          ID consult: Vanc/Meropenem
          Bradycardia with atrial pauses (1 beat)
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2120-9-14**] 02:00 PM
   Meropenem - [**2120-9-14**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-9-15**] 12:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Insulin - Regular - [**2120-9-15**] 01:15 AM
   Dextrose 50% - [**2120-9-15**] 01:15 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2120-9-15**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-15**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
F) 10 AM
   Tcurrent: 35.6
C (96
   HR: 89 (52 - 113) bpm
   BP: 119/53(77) {66/30(39) - 186/67(96)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 16 (7 - 22)mmHg
   CO/CI (Fick): (3.9 L/min) / (1.8 L/min/m2)
   SvO2: 44%
   Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  7,440 mL
                                                                  2,563 mL
   PO:
   TF:
   IVF:
                                                                  2,962 mL
                                                                  2,463 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    529 mL
                                                                  1,607 mL
   Urine:
                                                                    199 mL
                                                                     45 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                  6,911 mL
                                                                    956 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/26/158/13/-8  3:50 AM
   Ve: 13.9 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GEN: intubated, sedated. opens eyes to voice. does not follow commands.
   HEENT: pupils small but reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, 2/6 systolic murmur at LUSB
   PULM: coarse breath sounds at right base, no wheeze
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis, + [**Doctor Last Name **] on exam, abd otherwise nontender
   EXT: dp pulses 1+ bilaterally, no edema
   Labs / Radiology
   362 K/uL
   8.5 g/dL
   288 mg/dL
   3.3 mg/dL
   13 mEq/L
   5.1 mEq/L
   58 mg/dL
   101 mEq/L
   136 mEq/L
   26.8 %
   20.9 K/uL
        [image002.jpg]
   Differential-Neuts:93.5 %, Lymph:3.6 %, Mono:2.5 %, Eos:0.1 %
    Ca++:8.3 mg/dL, Mg++:2.8 mg/dL, PO4:5.9 mg/dL
                             [**2120-9-14**]  03:42 PM
                             [**2120-9-14**]  05:32 PM
                             [**2120-9-14**]  05:48 PM
                             [**2120-9-14**]  07:25 PM
                             [**2120-9-14**]  08:32 PM
                             [**2120-9-14**]  11:30 PM
                             [**2120-9-14**]  11:42 PM
                             [**2120-9-15**]  01:19 AM
                             [**2120-9-15**]  03:17 AM
                             [**2120-9-15**]  03:49 AM
   WBC
   31.8
   26.8
   20.9
   Hct
   27.0
   28
   27.4
   27
   26.8
   Plt
   392
   333
   362
   Cr
   3.9
   3.8
   3.3
   TropT
   1.90
   TCO2
   15
   12
   13
   11
   11
   15
   Glucose
   155
   149
   288
   Other labs:
   PT / PTT / INR: 20.7/38.4/2.0,
   ALT / AST:[**Telephone/Fax (1) 1912**]
   Alk Phos / T Bili:286/1.5
   Amylase / Lipase:65/49
   Albumin:2.3 g/dL, LDH:1628 IU/L,
   Fibrinogen:801 mg/dL,
   Lactic Acid:8.6 mmol/L,
   CK: 274  MB: 8                   Trop-T: 1.90     7:25 PM [**9-14**]
   CK: 444  MB: 22  MBI: 5.0  Trop-T: 1.48    3:00 AM [**9-15**]
   Vanc: 7.5
   ABD U/S IMPRESSION: Heterogeneous material in gallbladder fossa,
   concerning for gallbladder perforation with resultant
   inflammatory/infectious mass. Recommend CT for further evaluation, may
   not be amenable to percuaneous drainage
   MICRO:
   [**2120-9-13**] Blood culture with GPR in [**3-29**] bottles
[**2120-9-14**] 2:00 pm BILE
   GRAM STAIN (Final [**2120-9-14**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Previous admission grew LACTOBACILLUS. Urine negative. CXR
   unrevealing.  Worsened condition post drainage from blood seeding.
   Condition now improving, with decreasing lactate and pressor
   requirement
   - Vanc/[**Last Name (un) **].  Will discuss with ID regarding treatment of GPR, possibly
   lactobacillus.
   - D/C pressors as tolerated
   - IVF bolus until CVP = [**8-6**], 500 cc bolus X 1 this AM
   - SVO2 is < 50, got one dose of PRBC, will transfuse another unit
   - Stress-dose steroids, will do 3 day taper
   - arterial line in place, goal MAP > 65
   - appreciate surgery recs, will continue to follow along
   - follow cultures
   - monitor urine output closely-low this AM
   - vitamin k for inr
   .
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  CXR w/o acute process in ED. At risk for ARDS given sepsis. ET
   tube in position though 5 cm above carina.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation changed to versed/Fentanyl this AM due to discomfort on
   propofol
   .
   # Bradycardia:  Poor conduction system [**1-27**] recent MI with
   mulitfasicular block.  Persistent ST elevations and high troponins.
   - pacer pads in place.  Would pace for complete heart block.
   - Dobutamine may increase demand
   .
   # Acute renal failure with hyperkalemia and acidosis: Cr trending up to
   > 3 with low urine output.  Baseline appears to be low 2s.
   - on CVVH
   - follow renal recs
   - Appropriate dosing
   .
   # Elevated liver enzymes
   - [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  wastch for high Ca, low iCa
   ..
   # DM: SSI was reduced.
   - start insulin drip in setting of rapidly changing endocrine state,
   steroids
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, BB, amlodipine, lasix, prazosin in setting
   of septic shock
   .
   #Access: R IJ CVL placed in ED, PIV, arterial line, HD cath
   .
   # FEn: NPo for now, has OG tube, replete lytes prn
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2120-9-13**] 11:09 PM
   20 Gauge - [**2120-9-13**] 11:11 PM
   Arterial Line - [**2120-9-13**] 11:29 PM
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 1877**]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   CAD, recent NSTEMI
   cholangitis - recent stent and perc chole placement though fell out at
   rehab
   presented with fever 103
   U/S concerning for cholangitis versus perforation
   intubated, lined for acute agitation
   placed on pressors
   perc drain placed
   started on steroids
   started on CVVH
   episodes of brady and pauses
   Exam notable for Tm 97  BP 119/63 HR 89 RR 23 with 100 sat
   on AC21/600/5/.4
   intubated, sedated
   lungs clear
   abd - benign
   CXR reviewed - ett and line ok, unremarkable
   7.40/26/129
   MVO2 55%
   Labs notable for WBC 21 K, HCT 28 , K+ 5.1, HCO3 13 Cr 3.3 gluc 288
   lactate 6.5
   trop 1.48
   cultures: blood GPR's
   bile: gram stain GPC's and GPR's
   Problems:
   [**Name2 (NI) 1926**]
   bacteremia
   shock
   resp failure
   renal failure
   DM
   Agree with plan to continue antibiotics, wean pressors, cont vent
   support, cont CVVH, follow glucose, transfuse, wean steroids, insulin
   drip, NPO, touch base with surgery
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 43 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2120-9-15**] 14:05 ------

2120-09-16 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   RUQ U/S revealed heterogenous material in GB - slightly larger than
   prior but no comment on whether or not the fluid is a collection or not
   Off pressors with pressures in 130s
   Off insulin drip
   Tolerating CVVH well
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2120-9-14**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-9-15**] 08:00 AM
   Vancomycin - [**2120-9-15**] 09:26 AM
   Meropenem - [**2120-9-16**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2120-9-15**] 08:31 PM
   Dextrose 50% - [**2120-9-15**] 10:23 PM
   Heparin Sodium (Prophylaxis) - [**2120-9-15**] 11:29 PM
   Pantoprazole (Protonix) - [**2120-9-16**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-16**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 72 (58 - 86) bpm
   BP: 128/51(72) {91/43(55) - 149/75(96)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 90.2 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 12 (10 - 15)mmHg
   CO/CI (Fick): (5.2 L/min) / (2.4 L/min/m2)
   SvO2: 25%
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                  8,403 mL
                                                                  1,792 mL
   PO:
   TF:
   IVF:
                                                                  8,002 mL
                                                                  1,792 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  7,260 mL
                                                                  1,550 mL
   Urine:
                                                                    150 mL
                                                                     20 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                  1,143 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.46/37/129/24/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 322
   Physical Examination
   GEN: intubated, sedated. Nonresponsive to voice or painful stimuli.
   HEENT: pupils small but reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, 2/6 systolic murmur at LUSB
   PULM: clear at apexes, poor movement at bases, somewhat decreased on
   left side compared to right.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: dp pulses difficult to find bilaterally, + by Doppler bilaterally.
   Feet/Hands cool, sluggish cap refill.
   Labs / Radiology
   298 K/uL
   9.2 g/dL
   160 mg/dL
   2.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   37 mg/dL
   102 mEq/L
   138 mEq/L
   29.0 %
   24.2 K/uL
        [image002.jpg]
                             [**2120-9-15**]  11:02 AM
                             [**2120-9-15**]  01:39 PM
                             [**2120-9-15**]  01:56 PM
                             [**2120-9-15**]  03:38 PM
                             [**2120-9-15**]  08:39 PM
                             [**2120-9-15**]  08:43 PM
                             [**2120-9-15**]  11:50 PM
                             [**2120-9-16**]  02:22 AM
                             [**2120-9-16**]  03:15 AM
                             [**2120-9-16**]  03:22 AM
   WBC
   24.2
   Hct
   29.0
   Plt
   298
   Cr
   2.6
   2.4
   2.1
   TCO2
   19
   22
   24
   25
   25
   25
   27
   Glucose
   243
   65
   160
   Other labs: PT / PTT / INR:16.4/32.1/1.5, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:[**Telephone/Fax (1) 1912**], Alk Phos / T Bili:286/1.5,
   Amylase / Lipase:65/49, Differential-Neuts:75.0 %, Band:16.0 %,
   Lymph:4.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:1628 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   MICRO gram stain on bile: 1+PMNs, 4+ GPC p/c/c, 4+ GPR, ->
   lactobacillus heavy growth, GPC moderate growth, GNR sparse
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Previous admission grew LACTOBACILLUS. Urine negative. CXR
   unrevealing.  Worsened condition post drainage from blood seeding.
   Condition now improving, with decreasing lactate and pressor
   requirement. Bile cx grew Lactobacillus, other culture results pending.
   - Continue Vanc/[**Last Name (un) **].  Will discuss with ID regarding treatment of GPR,
   likely lactobacillus.
   - Will consider risk of clostridium perfringes, cover with Clindamycin
   800mg q8 until culture data confirmed.
   - follow cultures
   - Pressors off.
   - Fluids: at goal CVP 10-12, no more IVF indicated, appears euvolemic,
   will control w/ CVVH.
   - Last SVO2 is 50, will repeat SVO2 today.
   - Stress-dose steroids, has had 3 days, will d/c today.
   - arterial line in place, goal MAP > 65
   - appreciate surgery recs, will continue to follow after US today
   - monitor urine output closely-low this AM
   - repeat RUQ US today to assess fluid collection and f/u w/ surgery
   after exam.
   .
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  CXR w/o acute process in ED. At risk for ARDS given sepsis, but
   no sig changes on CXR and clear lung exam today. ET tube in position
   though 5 cm above carina.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation changed to versed/Fentanyl this AM due to discomfort on
   propofol
   - changed to PSV on rounds, with improved respiration timing, will
   leave on PSV for now.
   - will come down on sedation and head towards extubation as soon as
   possible.
   .
   # Bradycardia:  Poor conduction system [**1-27**] recent MI with
   mulitfasicular block.  Persistent ST elevations and high troponins.
   - pacer pads in place.  Would pace for complete heart block.
   - no current bradycardia.
   .
   # Acute renal failure with hyperkalemia and acidosis: Cr trending up to
   > 3 with low urine output.  Baseline appears to be low 2s.
   - on CVVH, Cr normalizing, but difficult to assess while on CVVH,
   likely has significant renal disease.
   - follow renal recs
   - Appropriate dosing
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  wastch for high Ca, low iCa
   - Follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, BB, amlodipine, lasix, prazosin in setting
   of septic shock
   .
   #Access: R IJ CVL placed in ED, PIV, arterial line, HD cath in R groin
   .
   # FEn: NPo for now, has OG tube, replete lytes prn
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2120-9-13**] 11:09 PM
   20 Gauge - [**2120-9-13**] 11:11 PM
   Arterial Line - [**2120-9-13**] 11:29 PM
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-17 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   > Asked renal to run him even on CVVH
   > Gave 500cc IVF over 4 hour
   > Had improving lactate and falling SVO2
   > Then worsening lacatate and rising SVO2
 ULTRASOUND - At [**2120-9-16**] 05:00 PM: to assess gallbladder and fluid
   collection
 EKG - At [**2120-9-17**] 01:29 AM
   Arterial line functioning poorly
   Poor mental status off sedation with inappropriate overbreathing per
   respiratory
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2120-9-14**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-9-15**] 08:00 AM
   Vancomycin - [**2120-9-16**] 08:50 AM
   Clindamycin - [**2120-9-16**] 04:00 PM
   Meropenem - [**2120-9-17**] 01:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-17**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-17**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 81 (66 - 84) bpm
   BP: 137/66(82) {113/57(72) - 155/94(103)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 98 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 10 (9 - 17)mmHg
   CO/CI (Fick): (6.5 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat:
   66 (9PM)
   86 (6AM)
   Total In:
                                                                  6,577 mL
                                                                  1,596 mL
   PO:
   TF:
   IVF:
                                                                  6,577 mL
                                                                  1,596 mL
   Blood products:
   Total out:
                                                                  6,641 mL
                                                                    192 mL
   Urine:
                                                                    203 mL
                                                                     50 mL
   NG:
                                                                    130 mL
   Stool:
                                                                     50 mL
   Drains:
                                                                     35 mL
   Balance:
                                                                    -64 mL
                                                                  1,404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 520 (0 - 660) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.48/36/135/26/4
   Ve: 12 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: intubated, sedated. Nonresponsive to voice or painful stimuli.
   HEENT: pupils small but reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, 2/6 systolic murmur at LUSB
   PULM: clear at apexes, poor movement at bases, somewhat decreased on
   left side compared to right.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: dp pulses difficult to find bilaterally, + by Doppler bilaterally.
   Feet/Hands cool, sluggish cap refill.
   Labs / Radiology
   229 K/uL
   9.3 g/dL
   192 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   28.7 %
   20.2 K/uL
        [image002.jpg]
                             [**2120-9-16**]  03:22 AM
                             [**2120-9-16**]  09:17 AM
                             [**2120-9-16**]  09:37 AM
                             [**2120-9-16**]  01:14 PM
                             [**2120-9-16**]  02:55 PM
                             [**2120-9-16**]  03:06 PM
                             [**2120-9-16**]  06:25 PM
                             [**2120-9-16**]  09:14 PM
                             [**2120-9-17**]  03:08 AM
                             [**2120-9-17**]  05:52 AM
   WBC
   24.5
   22.4
   20.2
   Hct
   29.4
   28.9
   28.7
   Plt
   286
   228
   229
   Cr
   2.0
   1.8
   1.7
   1.7
   TCO2
   27
   28
   26
   27
   25
   28
   Glucose
   220
   184
   212
   192
   Other labs: PT / PTT / INR:13.8/27.3/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:786/874, Alk Phos / T Bili:274/0.7,
   Amylase / Lipase:65/49, Differential-Neuts:94.4 %, Band:16.0 %,
   Lymph:4.4 %, Mono:1.1 %, Eos:0.1 %, Fibrinogen:801 mg/dL, Albumin:2.2
   g/dL, LDH:689 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL,
   ionized Ca 1.0
   Lactate  1.7 (9PM), 3.0 (3 AM), 3.2 (6AM)
   US: Persistent heterogeneous collection within the gallbladder fossa
   with indwelling drain. There now is a fluid-fluid level with this
   collection and a CT abdomen would help assess the position of the drain
   and contents of this collection.
   ECHO: Suboptimal image quality. Regional left ventricular systolic
   dysfunction consistent with coronary disease. Moderately dilated and
   hypokinetic right ventricle. Mild mitral regurgitation.
MICRO:     GRAM STAIN (Final [**2120-9-14**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   FLUID CULTURE (Preliminary):
      Due to mixed bacterial types (>=3) an abbreviated workup is performed; P.a
eruginosa, S.aureus and beta strep. are reported if present. Susceptibility will
 be performed on P.aeruginosa and S.aureus if sparse growth or greater..
      FURTHER WORK-UP PER DR [**Last Name (STitle) 2005**] ([**Numeric Identifier 2006**]).
      LACTOBACILLUS SPECIES.    HEAVY GROWTH.
      LACTOBACILLUS SPECIES.    MODERATE GROWTH.  2ND AND 3RD STRAINS.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
[**2120-9-13**] 7:10 pm
   Blood Culture (4/4 bottles):  LACTOBACILLUS SPECIES.
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Cultures showing lactobacillus, consistent with previous episode of
   Lactobacillus sepsis.  Worsened condition post drainage from blood
   seeding.  Condition now improving, with decreasing lactate and pressor
   requirement.  Persistent undrained collection on ultrasound.
   - Inadequate source control.  Will discuss with surgery and IR.  [**Month (only) 51**]
   need CT for further evaluation.  Is not likely to me more stable for
   surgery at a later date.  Would consider esmolol peri-op if going for
   CCY.  Repositioning of drain by IR may allow for better drainage.
   - Continue Vanc/[**Last Name (un) **].
   - follow cultures
   - Pressors off.
   - Fluids: at goal CVP 10-12, no more IVF indicated, appears euvolemic,
   will control w/ CVVH.
   - Goal SVO2 >70
   - Off steroids
   - arterial line in place, may need changing, goal MAP > 65
   - monitor urine output closely-low this AM
   - repeat RUQ US today to assess fluid collection and f/u w/ surgery
   after exam.
   .
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  CXR w/o acute process in ED. At risk for ARDS given sepsis, but
   no sig changes on CXR and clear lung exam today. ET tube in position
   though 5 cm above carina.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation changed to versed/Fentanyl this AM due to discomfort on
   propofol
   - decreasing pressure support requirements
   - will come down on sedation and head towards extubation as soon as
   possible.
   - LENIs to r/o DVT
   .
   # Poor mental status:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock
   - off sedation, continue to monitor
   - will do head CT if going for CT of other areas
   .
   # Bradycardia:  Poor conduction system [**1-27**] recent MI with
   mulitfasicular block.  Persistent ST elevations and high troponins.
   - pacer pads in place.  Would pace for complete heart block.
   - stable currently.
   .
   # Acute renal failure with hyperkalemia and acidosis: Cr trending up to
   > 3 with low urine output.  Baseline appears to be low 2s.
   - on CVVH, Cr normalizing, but difficult to assess while on CVVH,
   likely has significant renal disease.
   - follow renal recs
   - Appropriate dosing
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  watch for high Ca, low iCa.
   Both low currently
   - Follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, BB, amlodipine, lasix, prazosin in setting
   of septic shock
   .
   #Access: R IJ CVL placed in ED (clotted, will try tPA), PIV, arterial
   line (not working, will resite), HD cath in R groin
   .
   # FEn: NPo for now, has OG tube, replete lytes prn
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2120-9-13**] 11:09 PM
   20 Gauge - [**2120-9-13**] 11:10 PM
   Arterial Line - [**2120-9-13**] 11:29 PM
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-18 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-9-17**] 09:07 AM
 ARTERIAL LINE - STOP [**2120-9-17**] 01:00 PM
 ULTRASOUND - At [**2120-9-17**] 03:08 PM
 ARTERIAL LINE - START [**2120-9-17**] 11:45 PM
 BLOOD CULTURED - At [**2120-9-18**] 12:15 AM
   A-line placed, pressures greater than cuffs, esmolol gtt started for
   cardiac protection
   CVL considered contaminated by line nurse
   Micro lab will do Miropenem and Zosyn sensitivitis on Lactobacillus
    Based on ECHO results, fluids were increased overnight for higher CVP
   in setting of diastolic dysfunction.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-9-15**] 08:00 AM
   Clindamycin - [**2120-9-16**] 04:00 PM
   Vancomycin - [**2120-9-17**] 08:47 AM
   Metronidazole - [**2120-9-17**] 08:00 PM
   Meropenem - [**2120-9-18**] 12:00 AM
   Infusions:
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2120-9-17**] 10:40 PM
   Midazolam (Versed) - [**2120-9-17**] 10:45 PM
   Pantoprazole (Protonix) - [**2120-9-18**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-18**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 85 (78 - 113) bpm
   BP: 111/47(67) {102/43(5) - 176/62(92)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 8 (6 - 319)mmHg
   Total In:
                                                                  6,013 mL
                                                                  1,389 mL
   PO:
   TF:
   IVF:
                                                                  5,113 mL
                                                                  1,389 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    433 mL
   Urine:
                                                                    451 mL
                                                                    273 mL
   NG:
                                                                    100 mL
   Stool:
                                                                     50 mL
                                                                    150 mL
   Drains:
                                                                     30 mL
                                                                     10 mL
   Balance:
                                                                  4,148 mL
                                                                    956 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/37/166/29/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 332
   Physical Examination
   GEN: intubated, sedated. Nonresponsive to voice or painful stimuli.
   Some gag reflex.
   HEENT: pupils small but reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, s1, s2 wnl, no m/r/g
   PULM: clear at apexes, and laterally, mild rhonchi diffusely, likely
   referred from ET tube.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: warmer than previously, 1+ DP bilaterally.
   NEURO: nonresponsive to painful stimuli. Not sedated.
   Labs / Radiology
   209 K/uL
   10.1 g/dL
   91 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   31.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2120-9-16**]  02:55 PM
                             [**2120-9-16**]  03:06 PM
                             [**2120-9-16**]  06:25 PM
                             [**2120-9-16**]  09:14 PM
                             [**2120-9-17**]  03:08 AM
                             [**2120-9-17**]  05:52 AM
                             [**2120-9-17**]  08:07 AM
                             [**2120-9-17**]  09:52 AM
                             [**2120-9-17**]  03:48 PM
                             [**2120-9-18**]  12:21 AM
   WBC
   22.4
   20.2
   16.5
   Hct
   28.9
   28.7
   31.1
   Plt
   [**Telephone/Fax (3) 2015**]
   Cr
   1.8
   1.7
   1.7
   1.5
   1.6
   TCO2
   27
   25
   28
   27
   28
   Glucose
   184
   212
   192
   143
   91
   Other labs: PT / PTT / INR:13.8/27.3/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:786/874, Alk Phos / T Bili:274/0.7,
   Amylase / Lipase:65/49, Differential-Neuts:90.4 %, Band:0.0 %,
   Lymph:6.6 %, Mono:1.8 %, Eos:0.2 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:689 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: LENIs (FINAL): No evidence of deep vein thrombosis in either
   leg. The right common femoral vein could not be imaged as it was
   obscured by a catheter in place in the right groin.
   ECHO (FINAL): Suboptimal image quality. Regional left ventricular
   systolic dysfunction consistent with coronary disease. Moderately
   dilated and hypokinetic right ventricle. Mild mitral regurgitation.
   CT-Head: (PRELIM) Multiple hypodensities are noted within both
   cerebellar hemispheres,suspicious for acute-to-subacute infarcts. No
   other definite acute infarcts are identified. No hemorrhages. MRI is
   recommended for further evaluation
   CT-C/A/P: (PRELIM) Cholecystostomy drain upsized from 8F to 10F, with
   20 cc of initial drainage of turbid bile. Distended abnormal
   gallbladder. Diagnostic report to follow.
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Cultures showing lactobacillus, consistent with previous episode of
   Lactobacillus sepsis.  Worsened condition post drainage from blood
   seeding.  Condition now improving, with decreasing lactate and pressor
   requirement.  Persistent undrained collection on ultrasound, but
   drainage improved thismorning after RUQ US.
   - Source control. Drainage tube repositioned during ABD CT yesterday
   with 20cc of drainage. Further drainage this AM after US. Will monitor
   drainage as improves clinically, will re-image w/ ultrasound if
   worsens.
   - Per ID recs and cx data, will d/c IV Vanc and Clinda, and continue
   [**Last Name (un) **] for lactobacillis sepis/cholecystitis.
   - follow cultures
   - Pressors off, steroids off.
   - arterial line in place, may need changing, goal MAP > 65
   - monitor urine output closely, increased over night wi/ additional
   fluid, but decreasing again this AM
   - Fluids: at goal CVP 10-12, followed by renal, suggest no more fluid
   at this time, and no need for immediate HD.
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  CXR w/o acute process in ED. At risk for ARDS given sepsis, but
   no sig changes on CXR and clear lung exam today. ET tube in position
   though 5 cm above carina.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation no off
   - continue to wean vent settings, but will not plan to extubate until
   clinical picture improves and necessary imaging and procedures are
   completed.
   .
   # Poor mental status:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock. PT now off
   sedation, but continues to have poor MS.
   - monitor, frequent neuron checks
   - Head CT showed multiple hypodensities in cerebellum, unclear
   chronicity or etiology
   - Will likely do MRI while still intubated. Renal aware, will need to
   do HD x 3 days following MRI contrast, will discuss with radiology
   necessity of contrast.
   - Neurology consult after MRI
   .
   # Bradycardia:  Poor conduction system [**1-27**] recent MI with
   mulitfasicular block.  Persistent ST elevations and high troponins.
   - pacer pads in place.  Would pace for complete heart block.
   - stable currently.
   .
   # Acute renal failure with hyperkalemia and acidosis.  Baseline appears
   to be low 2s.  Cr improved overnight to 1.6, but rising again to 1.9
   this am. Prognosis for renal function unclear at this time.
   -Renal following closely, appreciate recs: minimal IVF and no need for
   HD at this time
   -Electrolytes normalizing, academia resolving. Will check another ABG.
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  watch for high Ca, low iCa.
   Both low currently
   - Follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, amlodipine, lasix, prazosin in setting of
   septic shock
   -started on Esmolol drip yesterday for post MI cardiprotection
   -switch to PO metroprolol 12.5 TID today.
   .
   #Access: R IJ CVL placed in ED, PIV, arterial line (not working, will
   resite), HD cath in R groin
   .
   # FEn: OG tube, replete lytes prn
   - Discussed w/ surgery, given improving sepsis and presence of BS this
   am, will restart TF per nutrition recs
   - Nutrition consult
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2120-9-13**] 11:09 PM
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   22 Gauge - [**2120-9-17**] 04:30 PM
   Arterial Line - [**2120-9-17**] 11:45 PM
   20 Gauge - [**2120-9-18**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-19 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2120-9-18**] 01:30 PM
 PICC LINE - START [**2120-9-18**] 04:00 PM
 PRESEP CATHETER - STOP [**2120-9-19**] 12:08 AM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2120-9-19**] 04:00 AM
   PICC placed.
   RIJ removed.
   MRI head done - showed subacute infarcts in b/l cerebral hemispheres,
   left thalami and punctate foci in ant and post distribution.
   Cultures grew citrobacter which is well covered by meropenem.
   Titratde up metoprolol to 37.5mg TID while titrating down esmolol.
   Required fentanyl for agitation. Added haldol for episodes of
   agitation.
   Called regarding likely displacement of ETT - oxygen sat 100%, no
   distress, could hear patient breathing, cxr difficult to see ETT.
   Called anesthesia to adjust tube or reintubate as patient unlikely to
   tolerate extubation challenge due to poor mental status.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2120-9-16**] 04:00 PM
   Vancomycin - [**2120-9-17**] 08:47 AM
   Metronidazole - [**2120-9-18**] 08:00 AM
   Meropenem - [**2120-9-18**] 10:00 PM
   Infusions:
   Fentanyl - 15 mcg/hour
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-9-19**] 12:12 AM
   Pantoprazole (Protonix) - [**2120-9-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-19**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 72 (62 - 85) bpm
   BP: 145/55(82) {104/44(64) - 159/71(100)} mmHg
   RR: 16 (7 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 90.2 kg
   Height: 72 Inch
    CVP: 11 (8 - 14)mmHg
   Total In:
                                                                  3,349 mL
                                                                    306 mL
   PO:
   TF:
                                                                     80 mL
                                                                     43 mL
   IVF:
                                                                  3,209 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,133 mL
                                                                    568 mL
   Urine:
                                                                    723 mL
                                                                    493 mL
   NG:
                                                                     50 mL
                                                                     75 mL
   Stool:
                                                                    150 mL
   Drains:
                                                                    210 mL
   Balance:
                                                                  2,216 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 404 (330 - 429) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/40/78/24/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: intubated, sedated, sleeping, woke easily, responsive, following
   commands
   HEENT: pupils equal and reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, s1, s2 wnl, no m/r/g
   PULM: clear at apexes, and laterally, mild rhonchi diffusely, likely
   referred from ET tube.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Responseive to voice, follows commands, able to nod yes and no.
   Squeze hands bilaterally, does not wiggle toes. Toes slightly
   downgoing on plantar scratch.
   Labs / Radiology
   183 K/uL
   8.9 g/dL
   117 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   45 mg/dL
   108 mEq/L
   140 mEq/L
   27.8 %
   12.7 K/uL
        [image002.jpg]
   N85, L9.5, M3, E1.4
                             [**2120-9-17**]  05:52 AM
                             [**2120-9-17**]  08:07 AM
                             [**2120-9-17**]  09:52 AM
                             [**2120-9-17**]  03:48 PM
                             [**2120-9-18**]  12:21 AM
                             [**2120-9-18**]  06:16 AM
                             [**2120-9-18**]  06:24 AM
                             [**2120-9-19**]  03:14 AM
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
   WBC
   16.5
   13.0
   12.7
   Hct
   31.1
   27.8
   27.8
   Plt
   [**Telephone/Fax (3) 2044**]
   Cr
   1.5
   1.6
   1.9
   2.0
   TCO2
   28
   27
   28
   26
   26
   25
   Glucose
   143
   91
   118
   117
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:289/109, Alk Phos / T Bili:223/0.7,
   Amylase / Lipase:65/49, Differential-Neuts:85.9 %, Band:0.0 %,
   Lymph:9.5 %, Mono:3.0 %, Eos:1.4 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   BileCx: lactobacillius #1, #2, #3. and Citrobacter Freundii,
   pan-sensitive, sensitive to meropenem.
   CXR: increasing bilateral effusions, some patchy areas of opacity in R
   side, ? focal atelectasis vs PNA
   MRI w/o contrast (FINAL): 1. Subacute infarctions within the cerebellar
   hemispheres and left thalamus. Other tiny foci of infarction in the
   left occipical and temporal lobes suggestive of an embolic source. 2.
   Left middle cranial fossa arachnoid cyst.
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Cultures showing lactobacillus, consistent with previous episode of
   Lactobacillus [**Telephone/Fax (3) **].  Worsened condition post drainage from blood
   seeding.  Condition now improving, with decreasing lactate and pressor
   requirement.  Persistent undrained collection on ultrasound, but
   drainage improved after RUQ US yesterday.
   - Source control. Drainage tube repositioned during ABD CT yesterday
   with 20cc of drainage. Further drainage yesterday after US. Will
   monitor drainage as improves clinically, will re-image w/ ultrasound if
   worsens.
   - Continue [**Last Name (un) **] for lactobacillis sepis/cholecystitis and new cx data
   of Citrobacter Freundii from bile
   - Pressors off, steroids off.
   - arterial line in place, may need changing, goal MAP > 65
   - urine output has been > 60cc/ht for last 6 hours
   - Fluids: at goal CVP 10-12, followed by renal, suggest no more fluid
   at this time, and no need for immediate HD.
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  Partially extubated himself last night, and was reintubated by
   anesthesia without complication. Currently doing well, with good sats
   on PS 5 and PEEP of 5 fiO2 50%.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation off and mental status improving.
   - will change OG to NG today
   - Given extubation event, possibility of aspiration, will have low
   threshold for starting broad Abx if fever/cough/WBC develop.
   - continue to wean vent settings, will consider extubation this
   afternoon or tomorrow if continues to improve clinically and mental
   status improves. Would like to remove femoral HD line before extubation
   to allow him to sit up more. Will discuss with renal.
   .
   # Poor mental status:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock, and embolic
   stroke old vs. new also possible given MRI read. Mental status
   significantly improved today. Pt awake but somnolent, able to respond
   to questions, able to follow commands.
   - monitor, frequent neuro checks,
   - Continue to watch MS [**First Name (Titles) **] [**Last Name (Titles) **] improves.
   - Consider neurology consult if does not continue to improve.
   .
   # Acute renal failure with hyperkalemia and acidosis.  Baseline appears
   to be low 2s.  Cr was 1.5 following dialysis, but rising again to 1.9
   yesterday, 2.0 this am. Cr plateauing 48 hours after HD suggests
   recovering renal function. Urine output has been good  averaging
   >60cc/hr over last 12 hours.
   -Renal following closely, appreciate recs: cautiously optimistic about
   returning renal function, continue minimal IVF and if Cr continues to
   stay low tomorrow, will pull the R fem HD catheter.
   -Electrolytes normalizing, academia resolving.
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  watch for high Ca, low iCa.
   Both low currently
   - Follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, amlodipine, lasix, prazosin in setting of
   septic shock
   -D/c
d esmolol drip,
   -Increased  metroprolol to 50 TID today.
   .
   #Access: PICC line placed. R IJ CVL removed.  PIV x2, HD cath in R
   groin
   .
   # FEn: OG tube will be changed to NG tube, replete lytes prn
   - TF restarted last night, was held overnight for high residuals, will
   start again this PM after NG tube placed and verified.
   - Nutrition consult
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-9-18**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   22 Gauge - [**2120-9-17**] 04:30 PM
   Arterial Line - [**2120-9-17**] 11:45 PM
   20 Gauge - [**2120-9-18**] 02:00 AM
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-20 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   OG Tube removed, replaced with NG Tube. Position verified by XRAY
   Began tube feeds, per nutrition recs.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-17**] 08:47 AM
   Metronidazole - [**2120-9-18**] 08:00 AM
   Meropenem - [**2120-9-20**] 12:15 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-20**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-20**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-20**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 67 (67 - 91) bpm
   BP: 130/51(76) {122/48(71) - 178/77(111)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.9 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                    839 mL
                                                                    308 mL
   PO:
             TF:
                                                                     92 mL
                                                                     80 mL
   IVF:
                                                                    567 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,623 mL
                                                                    360 mL
   Urine:
                                                                  1,333 mL
                                                                    350 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                     90 mL
                                                                     10 mL
   Balance:
                                                                   -784 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (337 - 465) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   SpO2: 100%
   ABG: 7.45/36/162/23/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 324
   Physical Examination
   GEN: intubated, sedated, sleeping, woke easily, responsive, following
   commands
   HEENT: pupils equal and reactive bilaterally, sclerae anicteric, tonuge
   slightly dry, tongue midline
   CV: RRR, s1, s2 wnl, no m/r/g
   PULM: clear at apexes, and laterally, mild rhonchi diffusely, likely
   referred from ET tube.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Responseive to voice, follows commands, able to nod yes and no.
   Squeze hands bilaterally, does not wiggle toes. Toes slightly
   downgoing on plantar scratch.
   Labs / Radiology
   232 K/uL
   9.1 g/dL
   144 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   48 mg/dL
   110 mEq/L
   142 mEq/L
   28.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-9-17**]  09:52 AM
                             [**2120-9-17**]  03:48 PM
                             [**2120-9-18**]  12:21 AM
                             [**2120-9-18**]  06:16 AM
                             [**2120-9-18**]  06:24 AM
                             [**2120-9-19**]  03:14 AM
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
                             [**2120-9-20**]  04:30 AM
                             [**2120-9-20**]  04:41 AM
   WBC
   16.5
   13.0
   12.7
   10.0
   Hct
   31.1
   27.8
   27.8
   28.1
   Plt
   [**Telephone/Fax (3) 2114**]32
   Cr
   1.5
   1.6
   1.9
   2.0
   2.0
   TCO2
   28
   26
   26
   25
   26
   Glucose
   143
   91
   118
   117
   144
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:289/109, Alk Phos / T Bili:223/0.7,
   Amylase / Lipase:65/49, Differential-Neuts:82.6 %, Band:0.0 %,
   Lymph:12.3 %, Mono:2.9 %, Eos:2.1 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.
   Cultures showing lactobacillus, consistent with previous episode of
   Lactobacillus [**Telephone/Fax (3) **].  Worsened condition post drainage from blood
   seeding.  Condition now improving, with decreasing lactate and pressor
   requirement.  Persistent undrained collection on ultrasound, but
   drainage improved after RUQ US yesterday.
   - Source control. Drainage tube repositioned during ABD CT yesterday
   with 20cc of drainage. Further drainage yesterday after US. Will
   monitor drainage as improves clinically, will re-image w/ ultrasound if
   worsens.
   - Continue [**Last Name (un) **] for lactobacillis sepis/cholecystitis and new cx data
   of Citrobacter Freundii from bile
   - Pressors off, steroids off.
   - arterial line in place, may need changing, goal MAP > 65
   - urine output has been > 60cc/ht for last 6 hours
   - Fluids: at goal CVP 10-12, followed by renal, suggest no more fluid
   at this time, and no need for immediate HD.
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  Partially extubated himself last night, and was reintubated by
   anesthesia without complication. Currently doing well, with good sats
   on PS 5 and PEEP of 5 fiO2 50%.
   - titrate invasive ventilation by ABGs
   - daily wakeup
   - VAP bundle
   - daily CXR while intubated
   - sedation off and mental status improving.
   - will change OG to NG today
   - Given extubation event, possibility of aspiration, will have low
   threshold for starting broad Abx if fever/cough/WBC develop.
   - continue to wean vent settings, will consider extubation this
   afternoon or tomorrow if continues to improve clinically and mental
   status improves. Would like to remove femoral HD line before extubation
   to allow him to sit up more. Will discuss with renal.
   .
   # Poor mental status:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock, and embolic
   stroke old vs. new also possible given MRI read. Mental status
   significantly improved today. Pt awake but somnolent, able to respond
   to questions, able to follow commands.
   - monitor, frequent neuro checks,
   - Continue to watch MS [**First Name (Titles) **] [**Last Name (Titles) **] improves.
   - Consider neurology consult if does not continue to improve.
   .
   # Acute renal failure with hyperkalemia and acidosis.  Baseline appears
   to be low 2s.  Cr was 1.5 following dialysis, but rising again to 1.9
   yesterday, 2.0 this am. Cr plateauing 48 hours after HD suggests
   recovering renal function. Urine output has been good  averaging
   >60cc/hr over last 12 hours.
   -Renal following closely, appreciate recs: cautiously optimistic about
   returning renal function, continue minimal IVF and if Cr continues to
   stay low tomorrow, will pull the R fem HD catheter.
   -Electrolytes normalizing, academia resolving.
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Ca Citrate dose lowered accordingly,  watch for high Ca, low iCa.
   Both low currently
   - Follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, amlodipine, lasix, prazosin in setting of
   septic shock
   -D/c
d esmolol drip,
   -Increased  metroprolol to 50 TID today.
   .
   #Access: PICC line placed. R IJ CVL removed.  PIV x2, HD cath in R
   groin
   .
   # FEn: OG tube will be changed to NG tube, replete lytes prn
   - TF restarted last night, was held overnight for high residuals, will
   start again this PM after NG tube placed and verified.
   - Nutrition consult
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2120-9-14**] 09:25 PM
   22 Gauge - [**2120-9-17**] 04:30 PM
   Arterial Line - [**2120-9-17**] 11:45 PM
   20 Gauge - [**2120-9-18**] 02:00 AM
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-21 05:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   DIALYSIS CATHETER - STOP [**2120-9-20**] 02:20 PM
   INVASIVE VENTILATION - STOP [**2120-9-20**] 03:11 PM
   ID and Renal signed off
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2120-9-18**] 08:00 AM
   Meropenem - [**2120-9-20**] 12:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2120-9-20**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-21**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 67 (64 - 86) bpm
   BP: 121/51(77) {114/38(65) - 169/73(105)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,546 mL
                                                                     52 mL
   PO:
             TF:
                                                                     80 mL
   IVF:
                                                                  1,111 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  1,337 mL
                                                                    220 mL
   Urine:
                                                                  1,307 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    209 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 738 (523 - 738) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.43/39/119//2
   Ve: 9.3 L/min
   Physical Examination
   GEN: intubated, awake, alert, intermittently engaged, intermittently
   responding to commands
   HEENT: pupils equal and reactive bilaterally, sclerae mildly icteric,
   tonuge slightly dry, tongue midline
   CV: RRR, s1, s2 wnl, no m/r/g
   PULM: clear at apexes, and laterally, mild rhonchi diffusely, likely
   referred from ET tube.
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Responseive to voice, follows commands, able to nod yes and no.
   Squeze hands bilaterally, does not wiggle toes. Toes slightly
   downgoing on plantar scratch.
   Labs / Radiology
   232 K/uL
   9.1 g/dL
   144 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   48 mg/dL
   110 mEq/L
   142 mEq/L
   28.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-9-17**]  03:48 PM
                             [**2120-9-18**]  12:21 AM
                             [**2120-9-18**]  06:16 AM
                             [**2120-9-18**]  06:24 AM
                             [**2120-9-19**]  03:14 AM
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
                             [**2120-9-20**]  04:30 AM
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
   WBC
   13.0
   12.7
   10.0
   Hct
   27.8
   27.8
   28.1
   Plt
   194
   183
   232
   Cr
   1.6
   1.9
   2.0
   2.0
   TCO2
   28
   26
   26
   25
   26
   27
   Glucose
   91
   118
   117
   144
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:289/109, Alk Phos / T Bili:223/0.7,
   Amylase / Lipase:65/49, Differential-Neuts:82.6 %, Band:0.0 %,
   Lymph:12.3 %, Mono:2.9 %, Eos:2.1 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement now represents with acute cholecystitis and
   septic shock.
   .
   # Refractory septic shock:  Cholecystitis is the likely source.  Blood
   cultures showing lactobacillus and Citrobacter Freundii. Recovering
   well. Last lactate 1.0.
   - Source control percutaneous cholecystostomy tube continuing to drain
   will stay in place for near future.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii.
   - Pressors off, steroids off. Hemodynamics stable
   - urine output has been good, 30-60 cc/hr on average
   - Attempt to keep fluid balance approx even as making good urine, and
   has good hemodynamics.
   # Respiratory: intubated for airway protection in the setting of septic
   shock.  Currently doing well, with good sats on PS 5 and PEEP of 5 fiO2
   50%. Last RSBI 75. Pt able to tolerate PEEP of 0 during rounds with
   good lung volumes.
   - daily CXR while intubated
   - mental status improving, pt awake, alert.
   - OG tube replaced by NG tube, and TFs were started, then held for
   residuals and for extubation
   - Given extubation event, possibility of aspiration, will have low
   threshold for starting broad Abx if fever/cough/WBC develop.
   - Renal recs: can remove R fem HD line, keep fluids even.
   .
   # Poor mental status:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock, and embolic
   stroke old vs. new also possible given MRI read. Mental status
   significantly improved today. Pt awake but somnolent, able to respond
   to questions, able to follow commands.
   - Continue to watch MS [**First Name (Titles) **] [**Last Name (Titles) **] improves.
   - Consider neurology consult if does not continue to improve.
   .
   # Acute renal failure with hyperkalemia and acidosis.  Baseline appears
   to be low 2s.  Cr was 1.5 following dialysis, but rising again to 1.9
   yesterday, 2.0 this am. Cr plateauing 72 hours after HD suggests
   recovering renal function. Urine output has been good  averaging
   >60cc/hr over last 12 hours.
   -Renal following closely, appreciate recs: cautiously optimistic about
   returning renal function. Given stable Cr today, will remove R fem HD
   line.
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow LFTs, check amylase and lipase,
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, amlodipine, lasix, prazosin in setting of
   septic shock
   -Esmolol drip restarted for hypertension and to prepare for extubation
   -Metroprolol increased to 75 TID today.
   .
   #Access: PICC line. PIV x2, HD cath in R groin. 1 PIV to be removed
   today for dates, and the HD to be removed as well.
   .
   # FEn: TF restarted. Held this am for possibility of extubation. Will
   restart tube feeds after extubation.
   .
   #PPx: sc heparin, ISS, bowel regimen
   .
   #Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   #Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-9-17**] 04:30 PM
   Arterial Line - [**2120-9-17**] 11:45 PM
   20 Gauge - [**2120-9-18**] 02:00 AM
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-22 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 100.6 overnight
   Neuro c/s yesterday - concern for endocarditis and spinal cord
   lesions/infarct/epidural abscess requiring emergent MRI of entire
   spine; also rec re-c/s ID for expanded abx coverage and TEE --- prelim
   read conc for thoracic cord signal hyperintensity suggesting edema that
   could be c/w thrown clots/infarctions. No sign of epidural abscess.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-22**] 02:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-9-22**] 02:21 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 80 (67 - 85) bpm
   BP: 145/62(82) {131/58(70) - 157/70(90)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,512 mL
                                                                    275 mL
   PO:
             TF:
                                                                     49 mL
                                                                     50 mL
   IVF:
                                                                  1,294 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    410 mL
   Urine:
                                                                  1,315 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/37/73.[**Numeric Identifier 218**]/23/0
   Physical Examination
   GEN: awake, alert, engages in conversation
   HEENT: pupils equal and reactive bilaterally, sclerae mildly icteric,
   tonuge slightly dry, tongue midline, NG tube inplace
   CV: RRR, s1, s2 wnl, no m/r/g
   PULM: clear, decreased air movement throughout
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Alert to place and year. Not oriented to month. Squeze hands
   bilaterally, does not wiggle toes. Toes slightly  downgoing on plantar
   scratch. Unable to feel lower ext above knees. Poor LE discriminatory
   function. Decreased strength and use of left upper extremity.
   PICC, A-line, 2 PIVs C/D/I
   Labs / Radiology
   211 K/uL
   13.1 g/dL
   119 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   47 mg/dL
   112 mEq/L
   144 mEq/L
   40.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2120-9-18**]  06:24 AM
                             [**2120-9-19**]  03:14 AM
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
                             [**2120-9-20**]  04:30 AM
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
   WBC
   12.7
   10.0
   6.2
   4.8
   Hct
   27.8
   28.1
   26.4
   40.6
   Plt
   183
   232
   242
   211
   Cr
   2.0
   2.0
   1.7
   1.8
   TCO2
   26
   26
   25
   26
   27
   24
   Glucose
   117
   144
   104
   119
   Other labs: PT / PTT / INR:14.0/28.7/1.2, Ca++:7.9 mg/dL, Mg++:2.3
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter [**Year (4 digits) **]
   and new infartcs on MRI in setting of new abnormalities on neuro exam.
   .
   # Resolved septic shock:  Cholecystitis is the likely source.  Blood
   cultures showing lactobacillus and Citrobacter Freundii. Recovering
   well. Last lactate 1.0. Percut cholecystostomy tube continuing to drain
   will stay in place for near future.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. For 10 day
   course starting [**9-14**]
   - Attempt to keep fluid balance approx even as making good urine, and
   has good hemodynamics.
   .
   # Poor mental status in setting of abnormal neurological exam and new
   MRI abnormalities:  Likely toxic-metabolic with persistent effect of
   sedation in setting of liver and renal dysfunction.  Hypoxic brain
   injury is also possible, given recent refractory shock, and embolic
   stroke old vs. new also possible given MRI read. Mental status
   significantly improved today. Pt awake but somnolent, able to respond
   to questions, able to follow commands.
   - Continue to watch MS [**First Name (Titles) **] [**Last Name (Titles) **] improves.
   - neuro following
   .
   # Acute renal failure s/p CVVH for hyperkalemia: baseline creatinine
   2.0. Today is 1.8
   - monitor
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, lasix, prazosin in setting of septic shock
   -d/c esmolol drip
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN: TFvia NG.
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line
   .
   # PPx: sc heparin, ISS, bowel regimen (add Miralax)
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: full confirmed with wife
   # Dispo: continue ICU care
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize / add
   the following points: 74M cholecystitis, ascending cholangitis c/b
   septic shock. Blood and biliary cultures are positive for GPC, GPR /
   lactobacillus. Extubated successfully 26th. Off dialysis.  Profound b/l
   LE and RUE weakness since extubation. Better LE exam today than
   yesterday. Family visiting when rounded on pt, felt speach more garbled
   though seems somewhat improved to me vs. when we rounded yesterday
   (family not present then).  Less drainage from choley tube, low grade
   temp.
   Exam notable for:
    Tmax: 100.6
   HR: 80
   BP: 145/62
   RR: 26
   SpO2: 100%
   Neuro: RUE
 can squeeze strength 2/5, LUE 4-/5, b/l LE not able to
   move on command (unchanged).  Able to feel touch on LE b/l today
   (improved vs. yesterday).
   WD male, follows commands.
   Lungs CTA
   CV RRR s1s2
   Abd  NT + BS + chole tube.
   ext - 2+ edema.
   Agree with plan to continue meropenem for lactobacillus / citrobacter
   [**Telephone/Fax (1) **] / cholangitis. Biliary drainage much slower today and developing
   low grade temp.  If persists, need to establish adequate location of
   drain in GB. Continue to follow serial labs, blood cultures, and exam.
   Doing well from resp standpoint s/p extubation.  Renal function
 creat
   still elevated but making urine and no longer requiring dialysis. .
   Major activity last 24hrs surrounding b/l LE weakness, RUE weakness.
   Also mult lesions noted brain c/w embolic phenomenon.  Org from blood
   not classic for causing endocarditis and no h/o valve damage that would
   predispose pt to seeding.  No new murmur.  Given brain lesions with
   more embolic than watershed distribution, need to assess for source.
   Start w/ TTE w/ bubble study to grossly look at valves and assess for
   PFO.  Doubt would tolerate TEE at present so reasonable first step.
   Team discussing spine MRI results with neuro and neuroradiology
   etiology not clear but apparently could be related to embolic or
   hypoperfusion.  Given [**Telephone/Fax (1) **], hypotension latter certainly possible.
   Given head lesions, potential for embolic troubling.  No intervention
   at present.  Repeat MRI but given recent contrast load, will not repeat
   immediately.  Family is aware of findings and thoughts.  Neuro and
   neurorad involved as is ID for potential infectious etiology.  Serial
   neuro exams including sensorymotor and mental status.
   Pt remains critically ill.
   70 minutes spent on care
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2120-9-22**] 05:43 PM ------

2120-09-23 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-9-22**] 11:00 AM
 URINE CULTURE - At [**2120-9-22**] 11:00 AM
 BLOOD CULTURED - At [**2120-9-22**] 03:42 PM
 ULTRASOUND - At [**2120-9-22**] 05:00 PM
   Moved to MICU-6
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-22**] 11:34 PM
   Heparin Sodium (Prophylaxis) - [**2120-9-22**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-23**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 82 (68 - 82) bpm
   BP: 142/72(90) {124/53(72) - 152/72(91)} mmHg
   RR: 29 (22 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,390 mL
                                                                    404 mL
   PO:
             TF:
                                                                    555 mL
                                                                    224 mL
   IVF:
                                                                    365 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,602 mL
                                                                    430 mL
   Urine:
                                                                  2,587 mL
                                                                    430 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,213 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GEN: awake, responsive, able to follow some commands.
   HEENT: pupils equal and reactive bilaterally, sclerae mildly icteric,
   tonuge slightly dry, tongue midline, NG tube inplace
   CV: RRR, s1, s2 wnl, no m/r/g, heart sounds distant,
   PULM: clear, decreased air movement throughout , very poor air movement
   at bases
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Alert to place and year. Not oriented to month. Squeezed hands
   bilaterally, left much stronger then right., does not wiggle toes. Toes
   slightly  downgoing on plantar scratch. Unable to localize sensation to
   anywhere on his trunk, abdomen, or legs.
   PICC, A-line, 2 PIVs C/D/I
   Labs / Radiology
   317 K/uL
   9.1 g/dL
   101 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   46 mg/dL
   113 mEq/L
   145 mEq/L
   28.3 %
   7.9 K/uL
        [image002.jpg]
   UA = -
   Last blood gas : 14/28.71.2
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
                             [**2120-9-20**]  04:30 AM
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
   WBC
   10.0
   6.2
   4.8
   7.9
   Hct
   28.1
   26.4
   40.6
   28.3
   Plt
   232
   242
   211
   317
   Cr
   2.0
   1.7
   1.8
   1.9
   1.8
   TCO2
   26
   25
   26
   27
   24
   Glucose
   144
   104
   119
   143
   101
   Other labs: PT / PTT / INR:14.0/28.7/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   CXR: Linear opacity on RML, ? consolidation, ?PNA, ?effusion
   US-RUQ: large distended gallbladder, large amount of sludge, catheter
   in place. NO signiicnat cha
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter sepsis
   and new infartcs on MRI in setting of new abnormalities on neuro exam.
   .
   # Resolved septic shock:  Cholecystitis is the likely source.  Blood
   cultures showing lactobacillus and Citrobacter Freundii. Recovering
   well. Last lactate 1.0. Percut cholecystostomy tube continuing to drain
   will stay in place for near future.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. For 10 day
   course starting [**9-14**]
   - Attempt to keep fluid balance approx even as making good urine, and
   has good hemodynamics.
   - Source control via percutaneue cholecystostomy tube is not draining
   well, and US shows no sig change from previous.
   - Discuss w/ surgery regarding options for drainage.
   .
   # Fever: Pt w/ new fever and mildly increasing WBC count. Unclear
   source. Gallbladder is most likely as is known abcess/collection and no
   longer draining well. Will need to address w/ surgery as mentioned
   above. Pt also with significant bilateral pleural effusions, as well as
   some new consolidation in the R upper or middle lobe. ? new PNA.
   - given tenuous [**Last Name (LF) 2199**], [**First Name3 (LF) **] send Sputum/Blood cxs, and cover for
   HAP/VAP with Vancomycin,. 750mg q 12, checking level tomorrow.
   - Will discuss management of gallbladder with surgery above
   - will d/c vanc if sputum cx negative
   # Poor mental status and neurological defecits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are likely embolic. Mental status
   significantly improved last two days. Pt awake but somnolent, able to
   respond to questions, able to follow commands, but w/ gross
   neurological deficits, including sensory level at T4, and apparent
   complete paralysis of legs bil.
   l
   - neuro following, appreciate recs.
   - Will get TTE+bubble study to assess for source for emboli, will
   consider TEE pending results and course.
   .
   # Acute renal failure s/p CVVH for hyperkalemia: baseline creatinine
   2.0. Today is 1.8, resolving.
   - monitor
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, lasix, prazosin in setting of septic shock
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN: TFvia NG.
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line
   .
   # PPx: sc heparin, ISS, bowel regimen (add Miralax)
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: full confirmed with wife, may need to readdress soon.
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-9-22**] 05:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-23 09:35:00 Physician Attending Progress Note
Chief Complaint: sepsis, ARF, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-9-22**] 11:00 AM
 URINE CULTURE - At [**2120-9-22**] 11:00 AM
 BLOOD CULTURED - At [**2120-9-22**] 03:42 PM
 ULTRASOUND - At [**2120-9-22**] 05:00 PM: for fevers and poor drainage
   from perc choly tube
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-22**] 11:34 PM
   Heparin Sodium (Prophylaxis) - [**2120-9-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2120-9-23**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 74 (68 - 82) bpm
   BP: 136/53(75) {124/52(71) - 152/72(91)} mmHg
   RR: 25 (22 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,390 mL
                                                                    539 mL
   PO:
             TF:
                                                                    555 mL
                                                                    329 mL
   IVF:
                                                                    365 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,602 mL
                                                                    580 mL
   Urine:
                                                                  2,587 mL
                                                                    580 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,213 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: lying in bed, tachypneic
   CV: RR
   Chest: coarse BS bilat poor airmovement, no wheezes
   Abd: obese soft NT + BS, drai in place
   Ext:warm, + edema
   Labs / Radiology
   9.1 g/dL
   317 K/uL
   101 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   46 mg/dL
   113 mEq/L
   145 mEq/L
   28.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2120-9-19**]  03:36 AM
                             [**2120-9-19**]  05:36 AM
                             [**2120-9-20**]  04:30 AM
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
   WBC
   10.0
   6.2
   4.8
   7.9
   Hct
   28.1
   26.4
   40.6
   28.3
   Plt
   232
   242
   211
   317
   Cr
   2.0
   1.7
   1.8
   1.9
   1.8
   TCO2
   26
   25
   26
   27
   24
   Glucose
   144
   104
   119
   143
   101
   Other labs: PT / PTT / INR:14.0/28.7/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   1.       Fevers: DDx gallbladder abscess: not draining by IR need to
   speak with Surgery about whether they would consider resection versus
   further attempt with IR. Add Vanco and get sputum versus BAL for data
   for PNA. TTE with bubble today to look for emboli, possible TEE in AM.
   2.        CHF: add back bblocker and Lasix
 goal 500 to 1000 cc
   negative
   3.       Resp Distress: likely PNA and volume overload and muscle
   weakness. Broaden ABX, get sputum, repeat ABG, low threshold for
   reintubation
   Remainder of issues as per Housestaff.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2120-9-22**] 05:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  wife and sons
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent: 45

2120-09-24 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2120-9-23**] 11:00 AM
 BLOOD CULTURED - At [**2120-9-24**] 04:35 AM
   Given Lasix 40 IV x 1 this am.
   ABG as below 7.37/48/91/29
   Seen by IR: Changed JP to suction bulb. Flushed in 3cc saline and
   returned 1 cc. Flushes DC
   TTE: No ASD or PFO
   Had Fever to 100.2 this AM. Sputum, Stool, Urine cx sent. Blood cx not
   repeated as had them this am..
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-23**] 12:00 PM
   Vancomycin - [**2120-9-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-9-23**] 11:00 AM
   Pantoprazole (Protonix) - [**2120-9-24**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-24**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-24**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 80 (68 - 82) bpm
   BP: 139/51(71) {128/51(71) - 156/72(90)} mmHg
   RR: 24 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,880 mL
                                                                     71 mL
   PO:
             TF:
                                                                    911 mL
                                                                      3 mL
   IVF:
                                                                    829 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    360 mL
   Urine:
                                                                  2,060 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/48/91/26/1
   Physical Examination
   GEN: awake, though somnolent,  responsive intermittently, less alert
   then yesterday. Speech difficult to understand
   HEENT: PERRL, sclerae mildly icteric, tonuge slightly dry, tongue
   midline, NG tube inplace
   CV: RRR, s1, s2 wnl, no m/r/g, heart sounds distant
   PULM: mild/moderate rhonchi diffuse, loud wet upper airway sounds, very
   poor air movement at bases
   ABD: distended but soft, nontender, midline surgical scar extending
   from sternum to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Squeezed hands bilaterally, left much stronger then right., does
   not wiggle toes. Toes slightly  downgoing on plantar scratch. Unable to
   localize sensation to anywhere on his trunk, abdomen, or legs.
   Sensation intact on face, neck
   LINES: PICC, A-line, 2 PIVs C/D/I
   Labs / Radiology
   345 K/uL
   9.3 g/dL
   124 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   47 mg/dL
   112 mEq/L
   144 mEq/L
   29.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
   WBC
   6.2
   4.8
   7.9
   10.0
   Hct
   26.4
   40.6
   28.3
   29.8
   Plt
   [**Telephone/Fax (3) 2223**]45
   Cr
   1.7
   1.8
   1.9
   1.8
   1.7
   TCO2
   26
   27
   24
   29
   29
   Glucose
   104
   119
   143
   101
   124
   Other labs: PT / PTT / INR:14.0/28.7/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   CXR [**2120-9-23**] bibasal atelectasis and bilateral pleural effusions did not
   significantly change. There are also no other significant changes
   compared to the prior study.
   CXR [**2120-9-24**]: diffuse increased opacification of R lung, ?effusion vs
   consolidation, given change of appearance from yesterday, likely
   effusion
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter sepsis
   and new infartcs on MRI in setting of new abnormalities on neuro exam.
   .
   # Resolved septic shock:  Cholecystitis is the likely source.  Blood
   cultures showing lactobacillus and Citrobacter Freundii.
   Hemodynamically stable. Last lactate 1.0. Percut cholecystostomy tube
   not draining anymore.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. For 10 day
   course starting [**9-14**]
   - Attempt to keep fluid balance approx even as making good urine, and
   has good hemodynamics.
   - Source control via percutaneue cholecystostomy tube is not draining
   well, and US shows no sig change from previous.
   - Repeat US again today.
   - To IR for exchange of perc cholecystostomy tube for larger tube
   - Discuss with surgery plan if cannot drain gallbladder
   - discuss case with ERCP
   .
   # Fever: Pt w/ new fevers and WBC count trending upwards. Unclear
   source. Gallbladder is most likely as is known abcess/collection and no
   longer draining well. Will need to address w/ IR and surgery as
   mentioned above. Pt also with significant bilateral pleural effusions,
   as well as some new consolidation in the R upper or middle lobe. ? new
   PNA.  Additional sources to consider are cardiac (negative TTE and
   bubble study yesterday) and spinal abcess given high risk.
   - given tenuous status, will follow up on sputum cx, and cover for
   HAP/VAP with Vancomycin,. 750mg q 12. Vanc level this AM 19.3. continue
   to follow VANC levels, and adjust dose as needed.
   - Will discuss management of gallbladder with surgery above
   - will d/c vanc if sputum cx negative
   - Repeat MR of t-spine and L-spine to look for abcess and to assess for
   interval change
   - Consider LP to rule meningitis if other sources all negative
   - Consider TEE (after negative TTE)
   - ID recs: temp likey [**1-27**] poor gallbladder drainage, cannot exclude
   empyema, PE, needs improved drain output. LP/TEE, consider
   thoracentesis. Continue merepenem, no indication for vancomycin.
   # Poor mental status and neurological defecits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are likely embolic. Mental status
   significantly improved since extubation, but has plateaued . Pt awake
   but somnolent, able to respond to questions, able to follow commands,
   but w/ gross neurological deficits, including sensory level at T4, and
   apparent complete paralysis of legs bil.
   - neuro following, appreciate recs.
   - Neuro recs [**9-24**]: 1) repeat MR [**First Name (Titles) **] [**Last Name (Titles) 2235**] 2)TEE when more stable 3)
   - Will get TTE+bubble study to assess for source for emboli, will
   consider TEE pending results and course.
   .
   # Acute renal failure s/p CVVH for hyperkalemia: baseline creatinine
   2.0. Yesterday is 1.8, today 1.7 stable, improving.
   - monitor Cr
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, lasix, prazosin in setting of septic shock
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: keep NPO w/ TFs, meds should be
   crushed for TF or IV.
   -TFvia NG per nutrition recs.
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line
   .
   # PPx: sc heparin, ISS, bowel regimen (add Miralax)
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: full confirmed with wife, may need to readdress soon.
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-24 17:30:00 Physician Attending Progress Note
Chief Complaint: biliary sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2120-9-23**] 11:00 AM
 BLOOD CULTURED - At [**2120-9-24**] 04:35 AM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-24**] 08:46 AM
   Meropenem - [**2120-9-24**] 12:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-24**] 12:05 AM
   Furosemide (Lasix) - [**2120-9-24**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-24**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-24**] 05:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 71 (70 - 82) bpm
   BP: 134/55(74) {119/43(62) - 156/62(85)} mmHg
   RR: 18 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,880 mL
                                                                    753 mL
   PO:
             TF:
                                                                    911 mL
                                                                      3 mL
   IVF:
                                                                    829 mL
                                                                    535 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,505 mL
   Urine:
                                                                  2,060 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/48/91/26/1
   Physical Examination
   Gen: lying in bed, tachypneic but more alert
   CV: RR
   Chest: coarse BS bilat poor airmovement, no wheezes
   Abd: obese soft NT + BS, drain in place
   Ext: warm, + edema
   Neuro: answers simple questions, no spont movement in lower ext, moving
   right arm better than yesterday
   Labs / Radiology
   9.3 g/dL
   345 K/uL
   124 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   47 mg/dL
   112 mEq/L
   144 mEq/L
   29.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-9-20**]  04:41 AM
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
   WBC
   6.2
   4.8
   7.9
   10.0
   Hct
   26.4
   40.6
   28.3
   29.8
   Plt
   [**Telephone/Fax (3) 2223**]45
   Cr
   1.7
   1.8
   1.9
   1.8
   1.7
   TCO2
   26
   27
   24
   29
   29
   Glucose
   104
   119
   143
   101
   124
   Other labs: PT / PTT / INR:14.3/31.9/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   1.       Biliary Sepsis: we have had multiple discussions with IR,
   Surgery, and will involve ERCP in the best way to decompress this
   gallbladder. At present he will go for tube change to larger bore
   catheter by IR, Dr [**Last Name (STitle) 2233**] examined pt and confirmed that he is not an
   operative candidate and met with the family to clarify this, ERCP has
   been called and the question for them is the role of a nasobiliary
   drain to further decompress his biliary system.
   2.       Fevers: remaining DDx is PNA
 sputum cx sent and following
   serial CXR. Also line infection but blood cx have been negative to
   date.  Added empiric Vanco. Follow up cx. TTE with bubble negative for
   PFO
   3.       CHF: add back bblocker and Lasix
 goal 500 to 1000 cc
   negative
   Remainder of issues as per Housestaff.
   Of note spent 45 minutes meeting with family, Dr [**Last Name (STitle) 2233**], and
   arranging IR treatment in addition to care above for total crit. care
   time of 60 minutes today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2120-09-25 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Underwent Abdominal Ultrasound
   C. Diff, Sputum Cultures sent
   IR replaced Perc Drain, changed from 8F to 12 F. However, still not
   draining.
   ERCP team rounded and stated pt would receive no added benefit for
   further interventions with Nasobiliary Tube.
   MR Thorax Performed, unread
   ID recommended DC Vanc, consider [**Female First Name (un) 217**], TEE when more stable.
   On am rounds, pt somnolent, but arousable. Opens eyes to voice and
   nodding but not speaking to answer questions so difficult to assess
   full neuro exam.
   At approx 1pm, pt c/o nonradiating chest pain, similar to chest pain he
   occasionally he has at home for which he takes nitro. Denies N/V/SOB.
   Pain intermittent. Also reported he had smiliar pain yesterday,
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-24**] 11:00 PM
   Meropenem - [**2120-9-25**] 12:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-9-24**] 08:30 AM
   Pantoprazole (Protonix) - [**2120-9-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-25**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 79 (69 - 95) bpm
   BP: 142/58(79) {112/41(60) - 146/67(80)} mmHg
   RR: 22 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,018 mL
                                                                    233 mL
   PO:
             TF:
                                                                      3 mL
   IVF:
                                                                    800 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    570 mL
   Urine:
                                                                  1,865 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -847 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: awake, though somnolent,  responsive intermittently, less alert
   then yesterday. Speech difficult to understand
   HEENT: PERRL, sclerae mildly icteric, tonuge slightly dry, tongue
   midline, NG tube inplace
   CV: RRR, s1, s2 wnl, no m/r/g, heart sounds distant
   PULM: mild/moderate rhonchi diffuse, loud wet upper airway sounds, very
   poor air movement at bases
   ABD: distended but soft, nontender, midline surgical scar extending
   from sternum to pubis
   EXT: 1+ DP bilaterally. 2+ pitting [**Last Name (un) 2053**] bilaterally of feet/ankles.
   NEURO: Squeezed hands bilaterally, left much stronger then right., does
   not wiggle toes. Toes slightly  downgoing on plantar scratch. Unable to
   localize sensation to anywhere on his trunk, abdomen, or legs.
   Sensation intact on face, neck
   LINES: PICC, A-line, 2 PIVs C/D/I
   Labs / Radiology
   243 K/uL
   9.2 g/dL
   127 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   42 mg/dL
   111 mEq/L
   145 mEq/L
   29.3 %
   9.9 K/uL
        [image002.jpg]
   US: persistent GB distension and heterogenous intraluminal material
   despite presence of drain.
   Stool C diff neg x 1. Sputum cx contaminated x2. Abscess: 3+polys,
   2+GPR, 2+GPC. Bl Cx [**9-25**] NGTD
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
   WBC
   6.2
   4.8
   7.9
   10.0
   9.9
   Hct
   26.4
   40.6
   28.3
   29.8
   29.3
   Plt
   [**Telephone/Fax (3) 2223**]45
   243
   Cr
   1.7
   1.8
   1.9
   1.8
   1.7
   1.7
   TCO2
   27
   24
   29
   29
   Glucose
   104
   119
   143
   101
   124
   127
   Other labs: PT / PTT / INR:14.3/31.9/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter sepsis
   and new infartcs on MRI in setting of new abnormalities on neuro exam.
   .
   # Resolved septic shock:  Cholecystitis is the likely source.  Blood
   cultures showing lactobacillus and Citrobacter Freundii.
   Hemodynamically stable. Percutaneous cholecystostomy tube not draining
   anymore so was replaced for larger size but still not draining.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. For 10 day
   course starting [**9-14**], will continue given recurrent fevers
   - Attempt to keep fluid balance 1 liter neg
   - Source control via percutaneous cholecystostomy tube is not draining
   well, and US shows no sig change from previous.
   - Will talk to IR about possible further interventions
   - Discuss with surgery again
   - will discuss case again with ERCP
   .
   # Fever: Pt w/ new fevers and WBC count trending down. Unclear source
   but most likely gallbladder given abcess/collection and no longer
   draining well. Will need to readdress w/ IR and surgery as mentioned
   above. Pt also with significant bilateral pleural effusions, as well as
   some new consolidation in the R upper or middle lobe. ? new PNA.
   Additional sources to consider are cardiac (negative TTE and bubble
   study yesterday) and spinal abcess given high risk.
   -  Will DC Vanco since not clearly treating any specific infection. If
   spikes or GPC speciated as staph, will restart.
   - Will discuss management of gallbladder with surgery above
   - Repeat MR of t-spine and L-spine to look for abcess and to assess for
   interval change
   - Consider LP to rule meningitis if other sources all negative if more
   stable
   - Consider TEE (after negative TTE)
   # Poor mental status and neurological deficits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are likely embolic. Mental status
   significantly improved since extubation . Pt awake but somnolent, able
   to respond to questions, able to follow commands, but w/ gross
   neurological deficits, including sensory level at T4, and apparent
   complete paralysis of legs bil. Etiologies likely hypercarbia (although
   none on recent ABGs) delirium, from multiple
   infarcts)
   - neuro following, appreciate recs
   - F/U repeat MR, consider TEE, LP
   .
   # Chest Pain: Pt c/o CP similar to CP he has at home. Possibly
   etiologies include UA, GI etiologies such as DES, GERD, PTX, PE. He was
   given Nitro with good effect, resolution.
   -          Check CXR
   -          Trend CEs. Will add on to afternoon labs (Had elevated trop
   before with prior NSTEMI so may be elevated from prior)
   -          On beta blocker. Will give ASA 325 x 1.
   -          Check ECG-> poor study but grossly unchanged from prior
   .
   # Acute renal failure s/p CVVH for hyperkalemia: baseline creatinine
   2.0. Cr 1.7 stable, improving.
   - monitor Cr
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -holding asa, statin, ace-i, lasix, prazosin in setting of septic shock
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: keep NPO w/ TFs, meds should be
   crushed for TF or IV.
   -TFvia NG per nutrition recs.
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line
   .
   # PPx: sc heparin, ISS, bowel regimen (add Miralax)
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-25 10:38:00 Physician Attending Progress Note
Chief Complaint: biliary sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    74 yr old with biliary sepsis, NSTEMI
   24 Hour Events:
 SPUTUM CULTURE - At [**2120-9-24**] 08:45 AM
 URINE CULTURE - At [**2120-9-24**] 08:45 AM
 STOOL CULTURE - At [**2120-9-24**] 08:45 AM
 MAGNETIC RESONANCE IMAGING - At [**2120-9-24**] 10:00 PM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-25**] 12:19 AM
   Vancomycin - [**2120-9-25**] 09:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-25**] 09:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-25**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 72 (69 - 95) bpm
   BP: 137/54(76) {112/41(60) - 146/67(80)} mmHg
   RR: 21 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,018 mL
                                                                    611 mL
   PO:
             TF:
                                                                      3 mL
   IVF:
                                                                    800 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    720 mL
   Urine:
                                                                  1,865 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -847 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen:Lying in bed, minimally conversant, tachypneic
   CV:RR
   Chest Poor airmovement scattered rales
   Abd soft NT  BS RUQ drain c/d/I no output
   Neuro: not moving lower ext, weak grip right hand, good grip left hand
   Labs / Radiology
   9.2 g/dL
   243 K/uL
   127 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   42 mg/dL
   111 mEq/L
   145 mEq/L
   29.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2120-9-20**]  04:34 PM
                             [**2120-9-21**]  04:30 AM
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
   WBC
   6.2
   4.8
   7.9
   10.0
   9.9
   Hct
   26.4
   40.6
   28.3
   29.8
   29.3
   Plt
   [**Telephone/Fax (3) 2223**]45
   243
   Cr
   1.7
   1.8
   1.9
   1.8
   1.7
   1.7
   TCO2
   27
   24
   29
   29
   Glucose
   104
   119
   143
   101
   124
   127
   Other labs: PT / PTT / INR:14.3/31.9/1.2, CK / CKMB /
   Troponin-T:444/22/1.48, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: RUQ US persistent GB distension and heterogenous material
   Microbiology: Bile: 3+ PMN @+ GPC and 2+ GPR
   Assessment and Plan
   1.       Biliary Sepsis: we have had multiple discussions with IR,
   Surgery, and will involve ERCP in the best way to decompress this
   gallbladder. New IR drain no more drainage, sludge is not amenable to
   draining further. Spoke with ERCP Attg who feel snasobiliary drain
   would not be helpful. Dr [**Last Name (STitle) 2233**] examined pt and confirmed that he is
   not an operative candidate. Asked Dr [**First Name (STitle) 404**] to see the pt to offer the
   family a second surgical opinion
   2.       Fevers: remaining DDx is bilairy source as above, PNA
 sputum
   cx sent and following serial CXR. Also line infection but blood cx have
   been negative to date.  Follow up cx. TEE when possible from resp
   status or if reintibated
   3.       Resp Distress: remains volume overloaded, trying diuresis,
   chest PT, suctioning prn, ABX. Follow up ABG and will need to consider
   re intubation if progressive hypercarbic failure
   4.       Neuro: CVA and ischemic spine injury
 follow up t spinr scan
 follow up with Neurology on prognosis
   5.       CHF: add back bblocker and Lasix
 goal 500 to 1000 cc
   negative
 improved oxtygenation with that.
   Remainder of issues as per Housestaff.
   Of note spent 45 minutes meeting with family
   ICU Care
   Nutrition: tfs
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer:PPI
   Communication:  met with son [**Name (NI) 2254**] and wife to update
   Code status: Full code
   Disposition :ICU
   CC 45 minutes

2120-09-26 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2120-9-25**] 01:30 PM
   pt with chest pain, labs drawn, EKG obtained, SL NITRO with good
   relief, team aware. Currently CP free, denies SOB, cough, F/C this am.
   PICC Line replaced, appropriately positioned overnight.
   ID Recs: Consider dx tap pleural effusion, LP.
   Transplant [**Doctor First Name **]: Poor surgical candidate but does not preclude possible
   intervention with open vs. partial chole. Would recommend repeat US to
   eval if GB larger, more edematous or larger tube placement.
   Neuro: Consider TEE. Brain lesions appear embolic. Regarding T spine,
   hypoperfusion infarct most likely although root enhancement still
   unclear etiology. Consider LP to r/o infectious vs. inflamm
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-25**] 09:30 AM
   Meropenem - [**2120-9-26**] 01:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-9-25**] 11:18 AM
   Morphine Sulfate - [**2120-9-25**] 01:41 PM
   Heparin Sodium (Prophylaxis) - [**2120-9-26**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-26**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 88 (67 - 89) bpm
   BP: 150/61(84) {119/48(66) - 151/72(85)} mmHg
   RR: 25 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,225 mL
                                                                    334 mL
   PO:
             TF:
                                                                     70 mL
                                                                    119 mL
   IVF:
                                                                    690 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    380 mL
   Urine:
                                                                  2,370 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   GEN: awake, though somnolent, responsive, more alert then yesterday.
   Speech difficult to understand, but nodding to questions
   HEENT: PERRL, tongue slightly dry, tongue midline, NG tube in place
   CV: Distant heart sounds. RRR, s1, s2 wnl, no m/r/g
   PULM: Anteriorly mild/moderate rhonchi diffuse, loud wet upper airway
   sounds, with poor air movement at bases
   ABD: distended but soft, nontender, midline surgical scar extending
   from sternum to pubis. Left chole JP drain in place with no drainage
   EXT: 1+ DP bilaterally. trace pitting edema bilaterally of feet/ankles.
   Pneumoboots in place
   NEURO: Squeezed hands bilaterally, left much stronger then right., does
   not wiggle toes. Toes slightly downgoing on plantar scratch. Not
   cooperating with neuro exam to determine sensation, but opening eyes,
   responding to questions.
   LINES: PICC
   Labs / Radiology
   243 K/uL
   9.2 g/dL
   211 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   42 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   9.9 K/uL
        [image002.jpg]
   MRI-Thorax read: 1. No significant change in the appearance of
   increased signal intensity within the cord extending from T6
   inferiorly. Subtle enhancement may be slightly increased. Given the
   clinical history, with sudden onset neurologic
   deficit and little clinical or radiographic improvement, this is
   consistent with spinal cord infarction. However, the differential for
   these findings is broad and includes infectious, inflammatory, and
   demyelinating processes.  2. Increased signal in the lower thoracic
   vertebral bodies as described above unchanged from prior study. Bone
   scan may be helpful.
   Abscess: 3+ polys, 2+GPR, 2+ GPC. [**9-25**] blood cx NGTD
                             [**2120-9-21**]  04:26 PM
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
   WBC
   4.8
   7.9
   10.0
   9.9
   Hct
   40.6
   28.3
   29.8
   29.3
   Plt
   [**Telephone/Fax (3) 2273**]43
   Cr
   1.8
   1.9
   1.8
   1.7
   1.7
   1.6
   TropT
   0.82
   0.82
   TCO2
   24
   29
   29
   Glucose
   119
   143
   101
   124
   127
   211
   Other labs: PT / PTT / INR:14.3/31.9/1.2, CK / CKMB /
   Troponin-T:19/22/0.82, ALT / AST:89/33, Alk Phos / T Bili:221/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:410 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Trop [**9-15**] CKMB 22 Trop 1.90->1.48
   [**9-25**] 1pm CK 25 Trop 0.82   [**9-26**] 1am CK 19 Trop 0.82
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter sepsis
   and new infarcts on MRI and new abnormalities on neuro exam with
   persistent low grade fevers.
   .
   # Cholecystitis/Resolved septic shock:  Cholecystitis is the likely
   source.  Blood cultures showing lactobacillus and Citrobacter Freundii
   with repeat blood cx NGTD. Hemodynamically stable. Percutaneous
   cholecystostomy tube not draining anymore so was replaced for larger
   size but still not draining.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. Per ID,
   will need 2 week course after definitive drainage procedure.
   - Source control via percutaneous cholecystostomy tube is not draining
   well, previous US shows no sig change from previous, but will repeat
   today.
   - Will talk to IR, surgery about possible further interventions
   - Consider surgery: Second opinion obtained. Will follow up final recs
   after US done and read
   .
   # Fever: Pt w/ new fevers. Unclear source but most likely gallbladder
   given abcess/collection and no longer draining well. Will need to
   readdress w/ IR and surgery as mentioned above. Pt also with small
   right pleural effusions, as well as some consolidation in the R middle
   lobe on CT. Additional sources to consider are cardiac with clinical
   picture of septic emboli although he has not had sustained bacteremia
   and repeat blood cx no growth. No evidence of vegon TTE. Focal abscess
   not seen on MRI. Meningitis unlikely given lack of meningeal symptoms.
   However has abnomal root anheancement which is concerning for
   infectious vs. inflammatory etiologies. Patient may also have right
   sided effusion from gallbladder infection and tap could help identify
   cause of infection.
   - Vanco DC
d since not clearly treating any specific infection with
   vanco. If spikes or GPC from abscess speciated as staph, will restart.
   - Will discuss management of gallbladder with surgery above
   - Repeat MR of t-spine and L-spine to look for abcess and to assess for
   interval change
   - Consider LP to rule meningitis if other sources all negative when
   more stable
   - Consider TEE in future but would not acutely change management since
   are continuing antibiotics
   - Will call lab to speciate bacteria from abscess cx and will discuss
   antibiotics with ID regarding need to broaded spectrum of coverage
   given low grade fevers
   - Will attempt ultrasound guided thoracentesis this afternoon if able.
   If difficult to visualize effusion, will consider consulting IR or IP
   for assistance
   .
   # Poor mental status and neurological deficits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are most likely embolic. Mental
   status significantly improved since extubation . Pt awake but
   somnolent, able to respond to questions, able to follow commands, but
   w/ gross neurological deficits, including sensory level at T4, and
   apparent complete paralysis of legs bil. Most likely etiology is
   impairment from multiple infarcts as well as delirium from infection,
   ICU stay.
   - neuro following, appreciate recs
   - Consider LP today to assess for demyelinating process
   - ? Need for bone scan based on recs from rads
   .
   # Chest Pain: Pt c/o CP similar to CP he has at home. Possibly
   etiologies include UA, GI etiologies such as DES, GERD, PTX, PE. He was
   given Nitro with good effect, resolution. CP now resolved. Biomarkers
   trending down. No PTX on CXR.
   -          Trended CEs. Trop still elevated from prior NSTEMI
   -          On beta [**Last Name (LF) 1463**], [**First Name3 (LF) **].
   .
   # Acute renal failure s/p CVVH for hyperkalemia: Creatinine continues
   to improve. Baseline 2.0. Now Cr 1.5.
   - monitor Cr
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -On [**Month/Day (2) **], metoprolol, amlodipine; holding statin, ace-i, lasix, prazosin
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: Keep NPO w/ TFs, meds should be
   crushed for TF or IV. Hypernatremic today. Free water deficit
   calculated as 3.2 Liters. Goal decrease 0.5mEq/L/hr.
   -TFvia NG per nutrition recs.
   . Will give free water 1 L IV x 1 now and recheck Na in pm
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line: repositioned
   .
   # PPx: sc heparin, ISS, bowel regimen
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: Full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2120-9-25**] 05:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-26 12:08:00 Physician Attending Progress Note
Chief Complaint: biliary sepsis, NSTEMI, spinal infarct
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2120-9-25**] 01:30 PM
 CHEST PAIN - At [**2120-9-25**] 01:30 PM
   pt with chest pain, labs drawn, EKG obtained, medicated with good
   relief, team aware, see vitals
   2nd opinion from Surgery [**First Name8 (NamePattern2) 861**] [**Last Name (NamePattern1) **] - also felt very high risk
   surgical candidate - asks for repeat Abd US today look at GB calrify
   with IR
   Gallbladder drain with multiple flora
 species pending
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-25**] 09:30 AM
   Meropenem - [**2120-9-26**] 01:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2120-9-25**] 01:41 PM
   Heparin Sodium (Prophylaxis) - [**2120-9-26**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-26**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 99 (67 - 101) bpm
   BP: 128/58(75) {119/52(73) - 151/72(85)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,225 mL
                                                                    431 mL
   PO:
             TF:
                                                                     70 mL
                                                                    119 mL
   IVF:
                                                                    690 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    955 mL
   Urine:
                                                                  2,370 mL
                                                                    745 mL
   NG:
   210 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Gen:lying in bed, minimally responsive, tachypneic
   CV: RR
   Chest: poor air movement [**Month (only) **] BS right base
   Abd: distended + BS RUQ drain in place
   Ext: min edema
   Neuro: not following commands, though does respind somewhat to family
   present, moving both arms but no legs
   Labs / Radiology
   9.1 g/dL
   357 K/uL
   109 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   41 mg/dL
   110 mEq/L
   147 mEq/L
   27.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2120-9-22**]  06:00 AM
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
   WBC
   4.8
   7.9
   10.0
   9.9
   10.6
   Hct
   40.6
   28.3
   29.8
   29.3
   27.2
   Plt
   [**Telephone/Fax (3) 2273**]43
   357
   Cr
   1.8
   1.9
   1.8
   1.7
   1.7
   1.6
   1.5
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   29
   Glucose
   119
   143
   101
   124
   127
   211
   109
   Other labs: PT / PTT / INR:14.3/30.4/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:24/15, Alk Phos / T Bili:160/0.6,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:248 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Increased intensity at T6 and inferiorly with enhancement suggesting
   Increased signal T9-T12
   Assessment and Plan
   1.       Biliary sepsis: veryy complicated situation with IR and 2
   surgical teams following. Goal is definitive drainage which IR drains
   have not accomplished and surgery is very high risk. Repeat Abd US
   today to see if more dilated. If so questin another IR drain, surgical
   placement of drain or high risk OR case. [**First Name9 (NamePattern2) 2290**] [**Last Name (un) **] fluid up micro
   on biliary drain.
   2.       Neurologic
 CVA looks embolic, also spinal infarcts. Possible
   LP to look for fluid
   3.       Effussion: pleural effusion likely symphathetic in response to
   infected gallbladder below- could there be perf and 2bdry infection.
   Check with US for extent of pleural fluid.
   4.        Angina: no acute ECG changes responded to MSO4, nitro
   hemodynamics stable
   5.       Hypoxemia: poor air movement volume overload evolving RLL
   effusion.
   ICU Care
   Nutrition: TFs on hold for abd exam.
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: PPI
   Communication:  extensive family meetings with wife and sons, spoke
   with DR [**Name (NI) 404**] as well last night and today
   Code status: Full code
   Disposition :ICU

2120-09-27 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2120-9-26**] 01:30 PM
   abdominal/gallbladder
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-26**] 06:09 PM
   Meropenem - [**2120-9-27**] 12:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-27**] 12:18 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-27**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-27**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 72 (70 - 104) bpm
   BP: 131/59(75) {116/46(63) - 138/63(78)} mmHg
   RR: 19 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,845 mL
                                                                    189 mL
   PO:
             TF:
                                                                    119 mL
   IVF:
                                                                  1,526 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    220 mL
   Urine:
                                                                  1,210 mL
                                                                    220 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                    425 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   8.5 g/dL
   107 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   40 mg/dL
   110 mEq/L
   145 mEq/L
   26.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
                             [**2120-9-27**]  04:21 AM
   WBC
   7.9
   10.0
   9.9
   10.6
   9.2
   Hct
   28.3
   29.8
   29.3
   27.2
   26.3
   Plt
   [**Telephone/Fax (3) 2328**]57
   357
   Cr
   1.9
   1.8
   1.7
   1.7
   1.6
   1.5
   1.6
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   29
   Glucose
   143
   101
   124
   127
   211
   109
   107
   Other labs: PT / PTT / INR:14.0/30.3/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:19/16, Alk Phos / T Bili:142/0.6,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:218 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: [**9-26**] GB US - IMPRESSION: Increased gallbladder distention and
   intraluminal debris, despite
   the presence of an upsized drain.
   Findings were discussed with the CT interventional and vascular
   interventional
   radiology services. It is not felt that the drain can be safely further
   upsized for adequate drainage at this time, given several recent
   upsizing
   procedures. Surgical consultation is recommended. Findings and
   recommendations were discussed with Dr. [**Last Name (STitle) 385**] at the conclusion of
   the
   exam.
   Microbiology: [**2120-9-24**] 4:30 pm ABSCESS
      GRAM STAIN (Final [**2120-9-24**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
   Enterococcus sparse growth
   GNR sparse growth
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with resolved Lactobacillus/Citrobacter sepsis
   and new infarcts on MRI and new abnormalities on neuro exam with
   persistent low grade fevers.
   .
   # Cholecystitis/Resolved septic shock:  Cholecystitis is the likely
   source.  Blood cultures showing lactobacillus and Citrobacter Freundii
   with repeat blood cx NGTD. Hemodynamically stable. Percutaneous
   cholecystostomy tube not draining anymore so was replaced for larger
   size but still not draining.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. Per ID,
   will need 2 week course after definitive drainage procedure.
   - Source control via percutaneous cholecystostomy tube is not draining
   well, previous US shows no sig change from previous, but will repeat
   today.
   - Will talk to IR, surgery about possible further interventions
   - Consider surgery: Second opinion obtained. Will follow up final recs
   after US done and read
   .
   # Fever: Pt w/ new fevers. Unclear source but most likely gallbladder
   given abcess/collection and no longer draining well. Will need to
   readdress w/ IR and surgery as mentioned above. Pt also with small
   right pleural effusions, as well as some consolidation in the R middle
   lobe on CT. Additional sources to consider are cardiac with clinical
   picture of septic emboli although he has not had sustained bacteremia
   and repeat blood cx no growth. No evidence of vegon TTE. Focal abscess
   not seen on MRI. Meningitis unlikely given lack of meningeal symptoms.
   However has abnomal root anheancement which is concerning for
   infectious vs. inflammatory etiologies. Patient may also have right
   sided effusion from gallbladder infection and tap could help identify
   cause of infection.
   - Vanco DC
d since not clearly treating any specific infection with
   vanco. If spikes or GPC from abscess speciated as staph, will restart.
   - Will discuss management of gallbladder with surgery above
   - Repeat MR of t-spine and L-spine to look for abcess and to assess for
   interval change
   - Consider LP to rule meningitis if other sources all negative when
   more stable
   - Consider TEE in future but would not acutely change management since
   are continuing antibiotics
   - Will call lab to speciate bacteria from abscess cx and will discuss
   antibiotics with ID regarding need to broaded spectrum of coverage
   given low grade fevers
   - Will attempt ultrasound guided thoracentesis this afternoon if able.
   If difficult to visualize effusion, will consider consulting IR or IP
   for assistance
   .
   # Poor mental status and neurological deficits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are most likely embolic. Mental
   status significantly improved since extubation . Pt awake but
   somnolent, able to respond to questions, able to follow commands, but
   w/ gross neurological deficits, including sensory level at T4, and
   apparent complete paralysis of legs bil. Most likely etiology is
   impairment from multiple infarcts as well as delirium from infection,
   ICU
   stay.
   - neuro following, appreciate recs
   - Consider LP today to assess for demyelinating process
   - ? Need for bone scan based on recs from rads
   .
   # Chest Pain: Pt c/o CP similar to CP he has at home. Possibly
   etiologies include UA, GI etiologies such as DES, GERD, PTX, PE. He was
   given Nitro with good effect, resolution. CP now resolved. Biomarkers
   trending down. No PTX on CXR.
   -          Trended CEs. Trop still elevated from prior NSTEMI
   -          On beta [**Last Name (LF) 1463**], [**First Name3 (LF) **].
   .
   # Acute renal failure s/p CVVH for hyperkalemia: Creatinine continues
   to improve. Baseline 2.0. Now Cr 1.5.
   - monitor Cr
    .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -On [**Month/Day (2) **], metoprolol, amlodipine; holding statin, ace-i, lasix, prazosin
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: Keep NPO w/ TFs, meds should be
   crushed for TF or IV. Hypernatremic today. Free water deficit
   calculated as 3.2 Liters. Goal decrease 0.5mEq/L/hr.
   -TFvia NG per nutrition recs.
   . Will give free water 1 L IV x 1 now and recheck Na in pm
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line: repositioned
   .
   # PPx: sc heparin, ISS, bowel regimen
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: Full confirmed with wife
   # Dispo: continue ICU care
   ICU Care
   Nutrition:
   Comments: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2120-09-27 08:46:00 Physician Attending Progress Note
Chief Complaint: biliary sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2120-9-26**] 01:30 PM
   abdominal/gallbladdermore distended
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-26**] 06:09 PM
   Meropenem - [**2120-9-27**] 12:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-27**] 12:18 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-27**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-27**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 65 (65 - 104) bpm
   BP: 120/54(71) {116/46(63) - 132/63(78)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,845 mL
                                                                    191 mL
   PO:
             TF:
                                                                    119 mL
   IVF:
                                                                  1,526 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    360 mL
   Urine:
                                                                  1,210 mL
                                                                    360 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                    425 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen:sittin up in chair, NAD, much improved resp status
   CV: RR
   Chest: better air movement, [**Month (only) **] BS right base
   Abd: distended + BS RUQ drain in place
   Ext: min edema
   Neuro: eyes open, nodding to yes and no questions, asking family for
   water and food. moving both arms but not legs
   Labs / Radiology
   8.5 g/dL
   357 K/uL
   107 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   40 mg/dL
   110 mEq/L
   145 mEq/L
   26.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2120-9-22**]  06:00 PM
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
                             [**2120-9-27**]  04:21 AM
   WBC
   7.9
   10.0
   9.9
   10.6
   9.2
   Hct
   28.3
   29.8
   29.3
   27.2
   26.3
   Plt
   [**Telephone/Fax (3) 2328**]57
   357
   Cr
   1.9
   1.8
   1.7
   1.7
   1.6
   1.5
   1.6
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   29
   Glucose
   143
   101
   124
   127
   211
   109
   107
   Other labs: PT / PTT / INR:14.0/30.3/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:19/16, Alk Phos / T Bili:142/0.6,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:218 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1.       Biliary sepsis: very complicated situation with IR and 2
   surgical teams following. Goal is definitive drainage which IR drains
   have not accomplished and surgery is very high risk. At present after
   conversation with 3 IR teams, DR [**Last Name (STitle) 2233**] and Dr [**First Name (STitle) 404**], we have
   arrived at long term medical management with Vanco and Meropenem, close
   monitoring and will try to obtain mono octanoic acid for lysis of
   biliary sludge.
   2.       Neurologic
 CVA looks embolic, also spinal infarcts. Stable
   exam. More alert today. Hold off on TEE as not a surgical candidate and
   no plan to stop ABX for many weeks so would not change management.
   3.       Effussion: pleural effusion likely symphathetic in response to
   infected gallbladder below- could there be perf and 2bdry infection.
   Looks better today and no fevers so would hol doff on tap for now. Much
   imprpoved resp status after Mt suctioning
   4.        Angina: no acute ECG changes responded to MSO4, nitro
   hemodynamics stable
   ICU Care
   Nutrition: tfs
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer:ppi
   Communication:  wife and sons
   [**Name (NI) 36**] status: Full code
   Disposition :ICU

2120-09-28 12:13:00 Physician Attending Progress Note
Chief Complaint: sepsis/cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2120-9-27**] 09:54 AM
   No major clinical events overnight except that he self-dc'd his NG
   tube.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-27**] 08:30 PM
   Meropenem - [**2120-9-28**] 12:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-28**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-28**] 08:03 AM
   Other medications:
   vanco, meropenem, SQH, PPI, SQI.  PO meds held while his NGT is out.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-28**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 97 (63 - 97) bpm
   BP: 130/55(73) {107/41(61) - 138/68(82)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,555 mL
                                                                  1,217 mL
   PO:
             120 mL
   TF:
                                                                     54 mL
   IVF:
                                                                  1,291 mL
                                                                  1,097 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    475 mL
   Urine:
                                                                    985 mL
                                                                    475 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    270 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, perc tube
   Extremities: Right: 1+ edema, Left: 1+ edema, right arm slightly more
   edematous than left
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, decrease LE sensation; does not
   speak
   Labs / Radiology
   8.4 g/dL
   378 K/uL
   100 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   38 mg/dL
   112 mEq/L
   146 mEq/L
   26.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
                             [**2120-9-27**]  04:21 AM
                             [**2120-9-28**]  03:23 AM
   WBC
   7.9
   10.0
   9.9
   10.6
   9.2
   7.4
   Hct
   28.3
   29.8
   29.3
   27.2
   26.3
   26.0
   Plt
   [**Telephone/Fax (3) 2328**]57
   357
   378
   Cr
   1.8
   1.7
   1.7
   1.6
   1.5
   1.6
   1.6
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   29
   Glucose
   101
   124
   127
   [**Telephone/Fax (3) 2360**]
   100
   Other labs: PT / PTT / INR:14.0/30.3/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:16/14, Alk Phos / T Bili:135/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: no new films
   Microbiology: Abscess with Citrobacter and Enterococcus
   Assessment and Plan
   74-year-old man with biliary sepsis from necrotic gallbladder.  Source
   control has not been possible, though he has reportedly improved on
   conservative therapy.  Fever curve is very slightly down.
   1.       Biliary sepsis: very complicated situation with IR and 2
   surgical teams following. Per Dr. [**Last Name (STitle) 385**]
s note:
Goal is
   definitive drainage which IR drains have not accomplished and surgery
   is very high risk. At present after conversation with 3 IR teams, Dr
   [**Last Name (STitle) 2233**] and Dr [**First Name (STitle) 404**], we have arrived at long term medical
   management with Vanco and Meropenem, close monitoring and will try to
   obtain mono octanoic acid for lysis of biliary sludge.
   We will
   continue present antibiotics.
   2.       Neurologic
 Mental status/alertness is improved, though
   ?expressive aphasia persists.  CVA is possibly embolic, and there are
   spinal infarcts.  Holding off on TEE as not a surgical candidate and
   will not stop ABX for many weeks (so would not change management).
   3.       Effusion: pleural effusion is most likely symphathetic in
   response to infected gallbladder below.  Seems to be improving so will
   hold off on thoracentesis for now.
   4.       CAD/NSTEMI: continue current rx
   5.  Check Doppler of RUE for swelling
   ICU Care
   Nutrition: per speech/swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min
   Patient is critically ill

2120-09-28 19:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt removed his NGT last night
   Had speach/swallow eval: purreed solids and nectar thick in small
   doses. Keep NGT, will f/u on monday.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2120-9-27**] 08:30 PM
   Meropenem - [**2120-9-28**] 12:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-9-28**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2120-9-28**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-28**] 07:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 72 (67 - 97) bpm
   BP: 119/48(66) {109/41(60) - 138/68(83)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,555 mL
                                                                  1,590 mL
   PO:
             280 mL
   TF:
                                                                     54 mL
   IVF:
                                                                  1,291 mL
                                                                  1,310 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                  1,040 mL
   Urine:
                                                                    985 mL
                                                                    840 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    270 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN: Awake, alert, oriented to place, speaking more clearly, but still
   difficult to understand
   HEENT: PERRL, sclerae anicteric, tonuge slightly dry, midline
   CV: RRR, s1, s2 wnl , no m/r/g
   PULM: poor air movement bil, CTA at apexes and anteriorly, no rales, no
   rhonchi, no wheezing
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis, nontender, no rebound, no guarding
   EXT: dp pulses 1+ bilaterally,
   Labs / Radiology
   378 K/uL
   8.4 g/dL
   100 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   38 mg/dL
   112 mEq/L
   146 mEq/L
   26.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-9-23**]  02:27 AM
                             [**2120-9-23**]  11:58 AM
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
                             [**2120-9-27**]  04:21 AM
                             [**2120-9-28**]  03:23 AM
   WBC
   7.9
   10.0
   9.9
   10.6
   9.2
   7.4
   Hct
   28.3
   29.8
   29.3
   27.2
   26.3
   26.0
   Plt
   [**Telephone/Fax (3) 2328**]57
   357
   378
   Cr
   1.8
   1.7
   1.7
   1.6
   1.5
   1.6
   1.6
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   29
   Glucose
   101
   124
   127
   [**Telephone/Fax (3) 2360**]
   100
   Other labs: PT / PTT / INR:14.0/30.3/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:16/14, Alk Phos / T Bili:135/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   CXR: poor quality film, no sig changes from previous, some increased
   opacity in RLL.
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with Lactobacillus/Citrobacter sepsis
   .
   # Cholecystitis/Resolved septic shock:  Cholecystitis is the likely
   source.  Blood cultures showing lactobacillus and Citrobacter Freundii
   with repeat blood cx NGTD. Hemodynamically stable. Percutaneous
   cholecystostomy tube not draining anymore so was replaced for larger
   size but still not draining. IR unable to offer any additional therapy.
   Two surgical attendings have consulted regarding surgery and determined
   that he is too high risk, and should be managed conservatively. New cx
   data from cholecystostomy drain, shows enterococcus.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter freundii. Per ID,
   will need 2 week course after definitive drainage procedure.
   - Add Vanco, given enterococcus in bile.
   - Source control via percutaneous cholecystostomy tube is not draining
   well, previous US shows no sig change from previous. Repeat US on [**9-26**]
   again shows increasing distension and no change in debris collection
   despite larger drain.
   - Surgery second opinion obtained. No plans for surgical intervention
   at this time due to pt high risk status.
   - Pt doing much better today, more alert, sitting in chair, speaking
   better. Family has expressed interest in having him reevaluated as
   surgical candidate. Will discuss w/ surgery.
   .
   # Fever: Pt has not had fevers for past 24h, though still had low grade
   in last 48 hours.  Most likely source is still gallbladder given
   abcess/collection and no longer draining well. Pt also with pleural
   effusions, as well as some consolidation in the R middle lobe on CT,
   but O2 sats are good and lung exam improving, argue against an
   untreated PNA. Additional sources to consider are cardiac with clinical
   picture of septic emboli from cerebral infarcts, although he has not
   had sustained bacteremia and repeat blood cx no growth. No evidence of
   vegon TTE. Focal abscess not seen on MRI. Meningitis unlikely given
   lack of meningeal symptoms. Patient may also have right sided effusion
   from gallbladder infection and tap could help identify cause of
   infection.
   - Continue vanc and meropenem for biliary source
   - Consider TEE in future but would not acutely change management since
   are continuing antibiotics
   - Consider ultrasound guided thoracentesis this if pt develops
   recurrent fevers
   .
   # Poor mental status and neurological deficits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are most likely embolic. Mental
   status significantly improving since extubation .  Will continue to
   monitor.
   - neuro following, appreciate recs
   - ? Need for bone scan based on recs from rads
   .
   # Chest Pain: Pt had previous complaints of CP similar to CP he has at
   home. Possibly etiologies include UA, GI etiologies such as DES, GERD,
   PTX, PE. He was given Nitro with good effect, resolution. CP now
   resolved. Biomarkers trending down. No PTX on CXR. No further CP.
   -          Trended CEs. Trop still elevated from prior NSTEMI, but
   trending downward.
   -          On beta [**Last Name (LF) 1463**], [**First Name3 (LF) **].
   .
   # Acute renal failure s/p CVVH for hyperkalemia: Creatinine has been
   stable at 1.5-1.6, unclear baseline.
   - monitor Cr
    .
   RUE swelling:  noticed some RUE swelling today, with 2+ pitting edema
   in the right hand.
   - RUE US to assess for DVT: negative.
   .
   # Elevated liver enzymes
   - likely [**1-27**] hypoperfusion.
   - Resolving, follow
   .
   # DM: SSI
   .
   # Gout: no acute issues, complaining of foot pain prior to admission,
   pain control prn when more alert
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -On [**Month/Day (2) **], metoprolol, amlodipine; holding statin, ace-i, lasix, prazosin
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: Keep NPO w/ TFs, meds should be
   crushed for TF or IV. Hypernatremic today. Free water deficit
   calculated as 3.2 Liters. Goal decrease 0.5mEq/L/hr.
   -TFvia NG per nutrition recs.
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line: repositioned
   .
   # PPx: sc heparin, ISS, bowel regimen
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: Full confirmed with wife
   # Dispo: continue ICU care for now. Will consider screening for rehab
   or call out to floor tomorrow if still stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-09-29 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt noted to have right upper extremity swelling and some pain on
   morning rounds.
   US/ RUE: no DVT
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2120-9-28**] 12:10 AM
   Vancomycin - [**2120-9-28**] 07:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-9-28**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-9-29**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 75 (67 - 97) bpm
   BP: 140/52(75) {109/43(60) - 142/84(98)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.2 kg
   Height: 72 Inch
                  Total In:
                                                                  1,790 mL
                  PO:
                                                                    280 mL
                  TF:
   IVF:
                                                                  1,510 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    280 mL
   Urine:
                                                                  1,020 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    570 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   GEN: Awake, alert, oriented to place, speaking with garbled speech,
   difficult to understand, but interactive
   HEENT: PERRL, sclerae anicteric, tongue slightly dry, midline
   CV: Distant heart sounds. RRR, s1, s2 wnl , no m/r/g
   PULM: poor air movement bil, CTA at apexes and anteriorly, no rales, no
   rhonchi, no wheezing
   ABD: distended but soft, midline surgical scar extending from sternum
   to pubis, nontender, no rebound, no guarding
   EXT: dp pulses 1+ bilaterally,
   NEURO: Moving UE, Not moving LE. 3/5 strength RUE c/w LUE [**4-29**]. Alert,
   awake, not cooperating with orientation.
   Labs / Radiology
   318 K/uL
   7.4 g/dL
   429 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   31 mg/dL
   100 mEq/L
   130 mEq/L
   24.1 %
   5.9 K/uL
       [image002.jpg] Repeat Na 141. Repeat K 3.9 Prior HCT 26.0 Na 129.
   Vanco 21.1 Blood cx [**9-25**] NGTD. Wound cx Citrobacter [**First Name9 (NamePattern2) 2387**] [**Last Name (un) 270**] to
   Meropenem, enterococcus [**Last Name (un) 270**] to Vanc
                             [**2120-9-23**]  08:41 PM
                             [**2120-9-24**]  03:22 AM
                             [**2120-9-25**]  04:50 AM
                             [**2120-9-25**]  01:31 PM
                             [**2120-9-26**]  01:12 AM
                             [**2120-9-26**]  06:26 AM
                             [**2120-9-27**]  04:21 AM
                             [**2120-9-28**]  03:23 AM
                             [**2120-9-28**]  06:35 PM
                             [**2120-9-29**]  03:48 AM
   WBC
   10.0
   9.9
   10.6
   9.2
   7.4
   5.9
   Hct
   29.8
   29.3
   27.2
   26.3
   26.0
   24.1
   Plt
   [**Telephone/Fax (3) 2383**]57
   378
   318
   Cr
   1.7
   1.7
   1.6
   1.5
   1.6
   1.6
   1.4
   1.4
   TropT
   0.82
   0.82
   0.74
   TCO2
   29
   Glucose
   124
   127
   211
   109
   107
   100
   Other labs: PT / PTT / INR:14.2/31.7/1.2, CK / CKMB /
   Troponin-T:22/22/0.74, ALT / AST:16/14, Alk Phos / T Bili:135/0.5,
   Amylase / Lipase:65/49, Differential-Neuts:81.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.3 %, Eos:2.6 %, Fibrinogen:801 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:202 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   74M with recent admission for cholecystitis and ascending cholangitis
   s/p perc tube placement with Lactobacillus/Citrobacter sepsis
   .
   # Cholecystitis/Resolved septic shock:  Cholecystitis is the likely
   source.  Blood cultures showing lactobacillus and Citrobacter [**Telephone/Fax (3) **]
   with repeat blood cx NGTD. Hemodynamically stable. Percutaneous
   cholecystostomy tube not draining anymore so was replaced for larger
   size but still not draining. IR unable to offer any additional therapy.
   Two surgical attendings have consulted regarding surgery and determined
   that he is too high risk, and should be managed conservatively. New cx
   data from cholecystostomy drain, shows enterococcus [**Last Name (un) 270**] to vanc.
   - Continue [**Last Name (un) **] for lactobacillis and citrobacter [**Last Name (un) 2387**]. Per ID,
   will need 2 week course after definitive drainage procedure.
   - Continue Vanco, given enterococcus in bile.
   - Source control via percutaneous cholecystostomy tube is not draining
   well, previous US shows no sig change from previous. Repeat US on [**9-26**]
   again shows increasing distension and no change in debris collection
   despite larger drain.
   - Pt doing much better today, more alert, sitting in chair, speaking
   better. Family has expressed interest in having him reevaluated as
   surgical candidate. Will discuss w/ surgery.
   .
   # Fever: Pt has been afebrile  past 24h.  Most likely source is still
   gallbladder given abcess/collection and no longer draining well. Pt
   also with pleural effusions, as well as some consolidation in the R
   middle lobe on CT, but O2 sats are good on nasal cannula and lung exam
   improving, argue against an untreated PNA. Additional sources to
   consider are cardiac with clinical picture of septic emboli from
   cerebral infarcts, although he has not had sustained bacteremia and
   repeat blood cx no growth. No evidence of veg on TTE. Focal abscess not
   seen on MRI. Meningitis unlikely given lack of meningeal symptoms.
   Patient may also have right sided effusion from gallbladder infection
   and tap could help identify cause of infection.
   - Continue vanc and meropenem for biliary source
   - Consider TEE in future but would not acutely change management since
   are continuing antibiotics
   - Consider ultrasound guided thoracentesis this if pt develops
   recurrent fevers
   .
   # Poor mental status and neurological deficits:  Pt w/ multiple CNS
   deficits in brain, and spinal cord, unclear etiology though Neurology
   suggests that the spinal lesions are likely infarcts [**1-27**] hypoperfusion,
   whereas some of the brain lesions are most likely embolic. Mental
   status significantly improving since extubation .  Will continue to
   monitor.
   - neuro following, appreciate recs
   - ? Need for bone scan based on recs from rads
   .
   # Chest Pain: Pt had previous complaints of CP similar to CP he has at
   home. Possibly etiologies include UA, GI etiologies such as DES, GERD,
   PTX, PE. He was given Nitro with good effect, resolution. CP now
   resolved. Biomarkers trending down. No PTX on CXR. No further CP.
   -          Trended CEs. Trop still elevated from prior NSTEMI, but
   trending downward.
   -          On beta [**Last Name (LF) 1463**], [**First Name3 (LF) **].
   .
   # Acute renal failure s/p CVVH for hyperkalemia: Creatinine has been
   stable at 1.5-1.6, unclear baseline.
   - monitor Cr
    .
   RUE swelling:  noticed some RUE swelling today, with 2+ pitting edema
   in the right hand.
   - RUE US to assess for DVT: negative.
   .
   # DM: SSI
   .
   #CAD s/p CABG; CHF, HTN, BPH:
   -On [**First Name3 (LF) **], metoprolol, amlodipine; holding statin, ace-i, lasix, prazosin
   -Metroprolol increased to 100 TID today, amlodipine restarted [**9-20**]
   .
   # FEN:  Had eval by speech and swallow: PO diet with pureed solids,
   nectar thick liquids, small volumes. 1: 1 suprevision. Na 130 then 141
   at 6am. Will recheck lytes in pm
   -
   .
   # Glycemic control: good control currently
   .
   # Access: PICC line
   .
   # PPx: sc heparin, ISS, bowel regimen
   .
   # Comm: with wife, [**Name (NI) 246**], [**Telephone/Fax (1) 1880**] who is hCP; son [**Name (NI) **]
   [**Telephone/Fax (1) 1881**]
   # Code: Full confirmed with wife
   # Dispo: continue ICU care for now. Will consider call out to floor if
   remains stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-9-18**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: